2188-11-05 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2188-11-4**] 10:00 AM
 DIALYSIS CATHETER - START [**2188-11-4**] 11:00 AM
 MULTI LUMEN - START [**2188-11-4**] 03:31 PM
 ARTERIAL LINE - START [**2188-11-4**] 04:13 PM
   - CT a/p: pneumatosis, concern for ischemic gut
   - [**Doctor First Name **] eval: attending d/w son, not operating at this time
   - Held PO Vanco last night
   - Fem CVP range 15-20
   - CTH: No acute changes
   - GI: No plan for scope acutely
   -
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2188-11-4**] 02:30 PM
   Azithromycin - [**2188-11-4**] 06:09 PM
   Vancomycin - [**2188-11-5**] 12:00 AM
   Metronidazole - [**2188-11-5**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-5**] 04:00 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-5**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.8
   HR: 86 (80 - 98) bpm
   BP: 84/34(48) {84/31(-1) - 136/56(81)} mmHg
   RR: 16 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 24 (8 - 25)mmHg
   Total In:
                                                                  5,164 mL
                                                                    909 mL
   PO:
   TF:
   IVF:
                                                                  5,164 mL
                                                                    909 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    550 mL
   Urine:
   NG:
                                                                    200 mL
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  4,964 mL
                                                                    359 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 323 (323 - 431) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 234
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.37/41/80.[**Numeric Identifier 248**]/22/-1
   Ve: 9.6 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   209 K/uL
   9.6 g/dL
   79 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.2 mEq/L
   54 mg/dL
   103 mEq/L
   139 mEq/L
   28.5 %
   22.9 K/uL
        [image002.jpg]
                             [**2188-11-4**]  01:00 PM
                             [**2188-11-4**]  04:38 PM
                             [**2188-11-4**]  07:03 PM
                             [**2188-11-4**]  09:31 PM
                             [**2188-11-4**]  11:51 PM
                             [**2188-11-5**]  12:09 AM
                             [**2188-11-5**]  03:22 AM
                             [**2188-11-5**]  03:51 AM
   WBC
   24.9
   22.9
   Hct
   30.5
   31
   27.5
   28.2
   28.5
   Plt
   202
   209
   Cr
   3.3
   3.6
   TropT
   0.46
   0.46
   TCO2
   28
   23
   24
   25
   Glucose
   110
   93
   79
   Other labs: PT / PTT / INR:16.3/38.6/1.5, CK / CKMB /
   Troponin-T:143/9/0.46, ALT / AST:20/38, Alk Phos / T Bili:74/0.6,
   Amylase / Lipase:105/15, Differential-Neuts:78.0 %, Band:17.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:426 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:267 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs:
   Hct is in normal range for patient
   INR 1.5 (<--1.2)
   BUN rising 48 -->54
   Trops .62, .48, .48
   Lactate 4, 2.3, 2.6, 2.6, 1.8
   Imaging: CT Head:
   1. No evidence of hemorrhage or recent infarction.
   2. Stable appearance of right frontal and parietal encephalomalacia as
   well
   as subcortical and periventricular white matter hypodensities. If there
   is
   concern for acute infarction, MR [**First Name (Titles) **] [**Last Name (Titles) 5734**]-weighted imaging should
   be
   performed.
   CT abd:
   IMPRESSION:
   1. Findings highly concerning for mesenteric ischemia and ischemic
   bowel in
   the SMA territory.
   2. Small amount of ascites.
   3. Bilateral small pleural effusion, left lower lobe collapse.
   4. Cholelithiasis; gallbladder distention can be related to the fasting
   state.
   Microbiology: [**11-4**]: blood cultures no growth to date
   [**11-4**]: sPutum: poor sample
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with coffee ground
   emesis.
   Septic Shock: Patient with significant white count . WBC on [**10-31**] 10.2.
   on levophed. GI likely given mesenteric ischemia, lung source possible
   given emesis and aspiration, necrotic toes as well, dont appear
   infected right now. Lactate trending down
   - Continue broad spectrum antibiotics for now in setting of multiple
   drug resident organisms with vancomycin with HD, zosyn, gentamycin,
   azithromycin. (day 1: [**11-4**])
   - f/u  blood cultures
   - stool for c diff, and treat empirically for now with PO vanc and IV
   flagyl
   - sputum culture
   - lactates trending down
   - wean levophed as tolerated, 0.14 this AM.
   - Use vigileo to assess stroke volume variation and fluid status. As of
   this afternoon, SVV 11, so appears euvolemic. Will hold off further
   boluses.
   Ischemic Bowel: Evidence with pneumotosis bowel on CT scan. Surgery is
   following, do not recommend surgery at this time
   - fluid recuscutation, broad spectrum abx
   - Lactate trending down
   - will have ongoing discussions with the family.
   - NPO
   - morphine for pain control
   Upper GI bleed: coffee ground emesis, lavage still coffee ground.
   currently hct is stable,  but blood pressure is trending down.
   Considering ulcer, gastritis, GI malignancy given has hx of colon CA,
   AVM, [**Doctor First Name 1856**]-[**Doctor Last Name **] in setting of emesis.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   - Hct [**Hospital1 **]
   - NPO
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline. now responsive
   to noxious stimuli. per aide in room she usually moves extremities.
   differential includes old stroke, current infection, hypernatremia,
   morphine and ativan given in the ED
   - Hypernatremia: resolved
   - Infection: abx
   - Medications: will hold narcotics for now
   COPD/Respiratory : On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD
   - follow gasses
   - albuterol, atrovent, fluticasone inhalers.
   ESRD: last HD was Monday. MWF. etiology is likely HTN. currently
   appears euvolemic.
   - indication for acute dialysis or CVVH is volume overload. Since
   electrolytes normal, will put on dialysis vs CVVH if overloaded
   tomorrow.
   Metabolic Alkalosis: Bicarb 29 on admission likely in setting of
   emesis, now normalized to 22.
   - will  monitor
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at home
   - will check Hct [**Hospital1 **] today
   - will transfuse for precipitous drop
   Hypothyroidism: on 200mcg levothyoxine at home
   - will give 100mcg IV for now
   - check TSH
   Access: Right femoral line and left arm a line.
   PPX: heparin sc, bowel regimen, PPI
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   Family meeting: Family is does not currently want to talk to palliative
   care. Would be useful to plan multidisciplinary family meeting with ICU
   team, Surgery, palliative care and Ethics.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-4**] 11:00 AM
   20 Gauge - [**2188-11-4**] 01:57 PM
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Arterial Line - [**2188-11-4**] 04:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code: no shocks, no chest compressions
   Disposition:ICU

2188-11-05 11:15:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2188-11-4**] 10:00 AM
 DIALYSIS CATHETER - START [**2188-11-4**] 11:00 AM
 MULTI LUMEN - START [**2188-11-4**] 03:31 PM
 ARTERIAL LINE - START [**2188-11-4**] 04:13 PM
   CT revealed pneumatosis.  Seen by Dr. [**Last Name (STitle) 2093**] and discussed in detail
   with son.
   Allergies:
   [**Name (NI) 5731**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2188-11-4**] 02:30 PM
   Azithromycin - [**2188-11-4**] 06:09 PM
   Metronidazole - [**2188-11-5**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-5**] 04:00 AM
   Vancomycin - [**2188-11-5**] 08:00 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-5**] 08:00 AM
   Other medications:
   vanco, PPI, colace, B12, SQH, vanco oral, azithro IV, AlOH, SQI,
   synthroid, atrovent, levophed at .14, zosyn, flagyl IV
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-5**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.8
   HR: 85 (80 - 98) bpm
   BP: 109/43(61) {84/31(-1) - 136/56(81)} mmHg
   RR: 16 (12 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 24 (8 - 25)mmHg
   Total In:
                                                                  5,164 mL
                                                                  1,093 mL
   PO:
   TF:
   IVF:
                                                                  5,164 mL
                                                                  1,033 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    550 mL
   Urine:
   NG:
                                                                    200 mL
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  4,964 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 323 (323 - 323) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 234
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.37/41/80.[**Numeric Identifier 248**]/22/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Present), (Right DP pulse: Absent), (Left DP pulse: Absent),
   necrotic toes
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft.  Still quite tender.  No peritoneal signs other than
   percussion tenderness
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   9.6 g/dL
   209 K/uL
   79 mg/dL
   3.6 mg/dL
   22 mEq/L
   4.2 mEq/L
   54 mg/dL
   103 mEq/L
   139 mEq/L
   28.5 %
   22.9 K/uL
        [image002.jpg]
                             [**2188-11-4**]  01:00 PM
                             [**2188-11-4**]  04:38 PM
                             [**2188-11-4**]  07:03 PM
                             [**2188-11-4**]  09:31 PM
                             [**2188-11-4**]  11:51 PM
                             [**2188-11-5**]  12:09 AM
                             [**2188-11-5**]  03:22 AM
                             [**2188-11-5**]  03:51 AM
   WBC
   24.9
   22.9
   Hct
   30.5
   31
   27.5
   28.2
   28.5
   Plt
   202
   209
   Cr
   3.3
   3.6
   TropT
   0.46
   0.46
   TCO2
   28
   23
   24
   25
   Glucose
   110
   93
   79
   Other labs: PT / PTT / INR:16.3/38.6/1.5, CK / CKMB /
   Troponin-T:143/9/0.46, ALT / AST:20/38, Alk Phos / T Bili:74/0.6,
   Amylase / Lipase:105/15, Differential-Neuts:78.0 %, Band:17.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:1.0 %, Fibrinogen:426 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:3.2 g/dL, LDH:267 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Imaging: CT abdomen
   IMPRESSION:
   1. Findings highly concerning for mesenteric ischemia and ischemic
   bowel in
   the SMA territory.
   2. Small amount of ascites.
   3. Bilateral small pleural effusion, left lower lobe collapse.
   4. Cholelithiasis; gallbladder distention can be related to the fasting
   state.
   CT head: prelim report with no acute findings\
   CXR with retrocardiac opacity.
   Assessment and Plan
   72-year-old woman with septic shock and respiratory failure in the
   setting of a complicated prior medical history.  CT strongly suggests
   mesenteric ischemia, but with resuscitation she has improved.
   Septic shock
   Ischemic bowel with translocation is most likely
   Antibiotics
          High risk for MRSA
 vancomycin IV
          High risk for C diff and quite ill
 vancomycin enteral;
   Flagyl IV
          Known resistant GNRs
 gentamicin + Zosyn (culture data
   reviewed)
          Some risk for atypicals (either as coinfection or primary
   CAP pathogen)
 azithromycing
   Hemodynamics
          EGDT as feasible through a femoral CVL (CVP > 12, MAP >
   60-65, etc.)
          Steroids only if vasopressor-resistant hypotension
          GI bleed makes risks of drotrecogin greater than benefits
   Diagnostics
          Follow cultures including sputum, blood, urine cx and
   Legionella urinary Ag if she makes urine.
          KUB and upright chest.  CT abdomen given abnormal exam, once
   hemodynamics stabilized
   GI bleed
   This seems to have stopped at present.  We will give PPI and blood
   product support as needed.  Will consult GI as she may warrant EGD
   before discharge, but unless she shows [**Year (4 digits) **] bleeding I would not
   pursue until hemodynamics improved.
   Respiratory failure
   Put on triggered mode to reduce WOB.  Seems likely secondary to
   aspiration and shock state.
   Very difficult vascular access
   We placed a right femoral CVL with single attempt.  As noted in exam
   above, the typical sites were not amenable to percutaneous placement.
   Also performed ultrasound exam of axillary veins (anteriorly).  These
   appeared quite small and not easily approachable.
   Left radial arterial line placed by me with single pass under real-time
   ultrasound guidance, using full barrier precautions.  Prior attempts by
   housestaff unsuccessful.
   Mental status
   Eye findings are concerning and not previously documented.  Response to
   noxious stimuli suggests that non-convulsive status is unlikely.  [**Month (only) 60**]
   be toxic-metabolic, and will re-assess as sepsis improves.  Will CT
   head to evaluate for anatomic lesions; she is not stable enough for
   MRI.
   ESRD on HD
   HD per renal
   Other issues as per Dr. [**First Name (STitle) 90**]
s note and the ICU team note from today.
   Critical care time:
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-4**] 11:00 AM
   20 Gauge - [**2188-11-4**] 01:57 PM
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Arterial Line - [**2188-11-4**] 04:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status:
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2188-11-06 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [ ] Vigileo: SVV 11 during the afternoon, will hold off on CVVH until
   tomorow. this AM is [**8-12**].
   - levophed down to 0.06.
   - [**3-8**] aerobic bottles: Gram stain of blood: gram + rods. started
   clindamycin for c. perfringens.
   - Morphine for pain control
   - pt care objectives from son in front of chart
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2188-11-4**] 02:30 PM
   Vancomycin - [**2188-11-5**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-5**] 12:00 PM
   Azithromycin - [**2188-11-5**] 06:00 PM
   Clindamycin - [**2188-11-6**] 12:00 AM
   Piperacillin - [**2188-11-6**] 12:00 AM
   Metronidazole - [**2188-11-6**] 04:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-6**] 12:00 AM
   Morphine Sulfate - [**2188-11-6**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-6**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 98 (83 - 98) bpm
   BP: 106/54(69) {79/39(54) - 130/54(69)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (5 - 21)mmHg
   Total In:
                                                                  2,085 mL
                                                                    481 mL
   PO:
   TF:
   IVF:
                                                                  1,965 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  1,535 mL
                                                                    481 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 116
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: ///17/
   Ve: 10.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   9.4 g/dL
   81 mg/dL
   4.5 mg/dL
   17 mEq/L
   4.7 mEq/L
   70 mg/dL
   103 mEq/L
   139 mEq/L
   27.8 %
   23.8 K/uL
        [image002.jpg]
                             [**2188-11-4**]  01:00 PM
                             [**2188-11-4**]  04:38 PM
                             [**2188-11-4**]  07:03 PM
                             [**2188-11-4**]  09:31 PM
                             [**2188-11-4**]  11:51 PM
                             [**2188-11-5**]  12:09 AM
                             [**2188-11-5**]  03:22 AM
                             [**2188-11-5**]  03:51 AM
                             [**2188-11-5**]  04:45 PM
                             [**2188-11-6**]  05:01 AM
   WBC
   24.9
   22.9
   23.8
   Hct
   30.5
   31
   27.5
   28.2
   28.5
   28.5
   27.8
   Plt
   [**Telephone/Fax (3) 5748**]
   Cr
   3.3
   3.6
   4.5
   TropT
   0.46
   0.46
   TCO2
   28
   23
   24
   25
   Glucose
   110
   93
   79
   81
   Other labs: PT / PTT / INR:16.5/33.8/1.5, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:23/35, Alk Phos / T Bili:75/0.5,
   Amylase / Lipase:105/15, Differential-Neuts:88.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:426 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.9 g/dL, LDH:217 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   BUN up from 54, creatinine up.
   Vanc and gent levels pending
   Micro: [**3-8**] aerobic bottles gram stain gram + bacilli
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here mesenteric ischemia
   and septic shock
   Septic Shock: Patient with significant white count . WBC on [**10-31**] 10.2.
   on levophed. GI likely given mesenteric ischemia, lung source possible
   given emesis and aspiration, necrotic toes as well, dont appear
   infected right now. Lactate trending down. Febrile this AM to 101.
   - Continue broad spectrum antibiotics for now in setting of multiple
   drug resident organisms with vancomycin with HD, zosyn, gentamycin,
   (day 1: [**11-4**]).
   - blood culture from [**11-4**] gram stain x2 aerobic bottles positive for
   gram positive bacilli, started empiric Clindamycin for now, will await
   speciation. We will discontinue flagyl and azithro for now.
   - tailor antibiotics pending speciation and specificity.
   - ID consult appreciated, will follow up recs.
   - stool for c diff, and treat empirically for now with IV flagyl
   - sputum culture
   - lactates trending down
   - wean levophed as tolerated, .12 this AM.
   - Use vigileo to assess stroke volume variation and fluid status. [**11-5**],
   SVV 11, so appeared euvolemic. duiring the day it had trended up, but
   this AM low, around [**8-12**]. will hold off on giving volume, should likely
   start CVVH today
   Mesenteric Ischemia: Evidence with pneumotosis bowel on CT scan.
   Surgery is following, do not recommend surgery at this time
   - fluid recuscutation, broad spectrum abx
   - Lactate trending down
   - NPO
   - morphine for pain control
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. per aide in room she usually
   moves extremities. differential includes old stroke, current infection,
   hypernatremia, morphine and ativan given in the ED
   - Hypernatremia: resolved
   - Infection: abx
   - Medications: will use narcotics with caution
   COPD/Respiratory : On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD
   - follow gasses
   - albuterol, atrovent, fluticasone inhalers.
   ESRD: last HD was Monday. MWF. etiology is likely HTN. currently
   appears euvolemic.
   - BUN increasing
   - would dialyze today, still on pressors, so CVVH, and run even
   Gap metabolic acidosis: bicarb 18, gap 20. likely in setting of high
   lactate and kidney failure.
   - will  monitor
   Upper GI bleed: coffee ground emesis, lavage still coffee ground.
   currently hct is stable,  but blood pressure is trending down.
   Considering ulcer, gastritis, GI malignancy given has hx of colon CA,
   AVM, [**Doctor First Name 1856**]-[**Doctor Last Name **] in setting of emesis.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   - Hct [**Hospital1 **]
   - NPO
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at home
   - will check Hct daily
   - will transfuse for precipitous drop
   Hypothyroidism: on 200mcg levothyoxine at home
   - will give 100mcg IV for now
   - check TSH
   FEN: has been NPO for several days, should start nutrition. Nutrition
   consult for TPN recs
   Access: Right femoral line and left arm a line.  will reassess for
   right sided IJ today now that angiocath removed from IJ.
   PPX: heparin sc, PPI
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:NPO
   Glycemic Control:  sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-4**] 11:00 AM
   20 Gauge - [**2188-11-4**] 01:57 PM
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Arterial Line - [**2188-11-4**] 04:13 PM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: PPI [**Hospital1 **] IV
   VAP:  HOB>30, chlorhexadine
   Comments:
   Communication:  Comments:
   Code status: Full code: chemical code only. no shocks, no compressions
   Disposition:

2188-11-06 09:10:00 Physician Attending Progress Note
Chief Complaint: Mesenteric ischemia
   HPI:
   24 Hour Events:
   Started on Vigileo with SVV of 11.
   CVVH deferred.
   Levophed weaned to .06.
   Started on clindamycin for GPRs in blood cultures.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2188-11-4**] 02:30 PM
   Vancomycin - [**2188-11-5**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-5**] 12:00 PM
   Azithromycin - [**2188-11-5**] 06:00 PM
   Clindamycin - [**2188-11-6**] 12:00 AM
   Piperacillin - [**2188-11-6**] 12:00 AM
   Metronidazole - [**2188-11-6**] 04:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-5**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-6**] 12:00 AM
   Morphine Sulfate - [**2188-11-6**] 02:00 AM
   Other medications:
   Insuling SS
   Protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2188-11-6**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (101.0
   HR: 98 (83 - 98) bpm
   BP: 106/54(69) {79/39(54) - 130/54(69)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (5 - 21)mmHg
   Total In:
                                                                  2,085 mL
                                                                    514 mL
   PO:
   TF:
   IVF:
                                                                  1,965 mL
                                                                    484 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                  1,535 mL
                                                                    514 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 116
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   Ve: 10.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: does not open eyes
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   )
   Abdominal: Soft, No(t) Bowel sounds present, Tender: diffusely
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   264 K/uL
   81 mg/dL
   4.5 mg/dL
   17 mEq/L
   4.7 mEq/L
   70 mg/dL
   103 mEq/L
   139 mEq/L
   27.8 %
   23.8 K/uL
        [image002.jpg]
                             [**2188-11-4**]  01:00 PM
                             [**2188-11-4**]  04:38 PM
                             [**2188-11-4**]  07:03 PM
                             [**2188-11-4**]  09:31 PM
                             [**2188-11-4**]  11:51 PM
                             [**2188-11-5**]  12:09 AM
                             [**2188-11-5**]  03:22 AM
                             [**2188-11-5**]  03:51 AM
                             [**2188-11-5**]  04:45 PM
                             [**2188-11-6**]  05:01 AM
   WBC
   24.9
   22.9
   23.8
   Hct
   30.5
   31
   27.5
   28.2
   28.5
   28.5
   27.8
   Plt
   [**Telephone/Fax (3) 5748**]
   Cr
   3.3
   3.6
   4.5
   TropT
   0.46
   0.46
   TCO2
   28
   23
   24
   25
   Glucose
   110
   93
   79
   81
   Other labs: PT / PTT / INR:16.5/33.8/1.5, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:23/35, Alk Phos / T Bili:75/0.5,
   Amylase / Lipase:105/15, Differential-Neuts:88.0 %, Band:5.0 %,
   Lymph:2.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:426 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:2.9 g/dL, LDH:217 IU/L, Ca++:9.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: Vanc=pending
   Gent=pending
   Imaging: CXR:  persistent obscuration of left hemidiaphragm, no change.
   Microbiology: [**11-4**] Blood cultures: [**3-8**] GPRs
   Assessment and Plan
   72F with ESRD p/w mesenteric ischemia, septic shock, and respiratory
   failure.
   1) Septic Shock:  Secondary to mesenteric ischemia and pneumonia.
       -Continue broad spectrum abx for now with specific coverage for
   possible C. perfrigens bacteremia.
       -SVV indicates adequate preload currently so likely would not
   benefit from additional fluid challenge.
       -Wean pressors as tolerated, MAP>65.
   2) Mesenteric ischemia:
      -Maintain adequate perfusion
      -D/w surgery and GI if any role of anticoagulation.
   3) Respiratory Failure:
      -Continue current ventilator settings until shock/mesenteric
   ischemia improves.
      -Recheck ABG
   4) Renal failure:
      -Metabolic acidosis>>begin CVVH.
      -Run CVVH at fluid goal of even.
   ICU Care
   Nutrition:
   Comments: Will begin TPN.
   Glycemic Control:  Regular insulin sliding scale, Comments: [**Month (only) 60**] need
   additional coverage with TPN.
   Lines:
   Dialysis Catheter - [**2188-11-4**] 11:00 AM
   20 Gauge - [**2188-11-4**] 01:57 PM
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Arterial Line - [**2188-11-4**] 04:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments: Meeting with son
   [**Name (NI) 66**] status:
   Disposition :ICU
   Total time spent:

2188-11-07 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Attempt at Right IJ--unable to thread wire past about 20 cm
   - SBP down to 50's-60's, responded to 1 L bolus of LR and maximum dose
   of levophed
   - Son in to visit, discussed goals of care
   - ID recommended narrowing antibiotics, surveillance cultures, sending
   c. difficile
   - Surgery and GI both felt risks of heparin gtt for mesenteric ischemia
   outweighed benefits given history of recent GIB
   - KUB demonstrated dilatation of bowel, no performation, air-fluid
   levels.
   - Feet turned mottled, more purple, pulses not doperable below
   popiteal, improved with increased MAPs.
   - Stopped, then re-started CVVH.
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2188-11-4**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-5**] 12:00 PM
   Azithromycin - [**2188-11-5**] 06:00 PM
   Vancomycin - [**2188-11-6**] 01:53 PM
   Clindamycin - [**2188-11-6**] 05:00 PM
   Metronidazole - [**2188-11-7**] 04:00 AM
   Piperacillin - [**2188-11-7**] 06:00 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-6**] 08:00 PM
   Morphine Sulfate - [**2188-11-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-7**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.8
   HR: 122 (75 - 122) bpm
   BP: 104/47(63) {70/42(50) - 147/56(76)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 59%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 10 (5 - 22)mmHg
   Total In:
                                                                  5,996 mL
                                                                  2,486 mL
   PO:
   TF:
   IVF:
                                                                  5,966 mL
                                                                  2,181 mL
   Blood products:
   Total out:
                                                                    870 mL
                                                                  1,044 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,126 mL
                                                                  1,442 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 59%
   ABG: 7.31/46/73.[**Numeric Identifier 607**]/21/-3
   Ve: 12.6 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: No(t) Soft, Distended, Tender: to minimal palpation
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  LE mottled
   Neurologic: No(t) Follows simple commands, Responds to: Tactile
   stimuli, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   247 K/uL
   8.5 g/dL
   154 mg/dL
   2.4 mg/dL
   21 mEq/L
   4.3 mEq/L
   40 mg/dL
   105 mEq/L
   140 mEq/L
   25.8 %
   19.7 K/uL
        [image002.jpg]
                             [**2188-11-6**]  09:08 AM
                             [**2188-11-6**]  09:34 AM
                             [**2188-11-6**]  02:35 PM
                             [**2188-11-6**]  05:38 PM
                             [**2188-11-6**]  06:19 PM
                             [**2188-11-6**]  06:28 PM
                             [**2188-11-7**]  12:23 AM
                             [**2188-11-7**]  12:30 AM
                             [**2188-11-7**]  05:59 AM
                             [**2188-11-7**]  06:04 AM
   WBC
   19.7
   Hct
   27
   25.8
   Plt
   247
   Cr
   4.7
   3.0
   2.4
   TCO2
   21
   23
   21
   22
   23
   24
   Glucose
   96
   110
   176
   154
   Other labs: PT / PTT / INR:15.5/37.2/1.4, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:23/35, Alk Phos / T Bili:75/0.5,
   Amylase / Lipase:105/15, Differential-Neuts:92.9 %, Band:5.0 %,
   Lymph:3.9 %, Mono:2.0 %, Eos:1.2 %, Fibrinogen:426 mg/dL, Lactic
   Acid:2.6 mmol/L, Albumin:2.8 g/dL, LDH:217 IU/L, Ca++:9.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs:
   Hct slowly trending down
   white count down to 19
   LFTs normal
   lactate up to 2.6 (max 2.9 yesterday)
   Imaging:
   [**2188-11-6**]: KUB: Multiple dilated loops of bowel with air fluid levels,
   worse in appearance. No definite free air. Right femoral catheter
   sheath identified.
   d/w dr. [**First Name (STitle) **]
   Microbiology:
   [**2188-11-4**] CORYNEBACTERIUM DIPHTHEROIDS, sensitivities pending
   [**2188-11-5**]: sputum
   4+   GRAM NEGATIVE ROD(S).
   3+  GRAM POSITIVE ROD(S).
   1+  GRAM POSITIVE COCCI IN PAIRS.
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here mesenteric ischemia
   and septic shock
   Septic Shock: Corynbacterium dipthroid sepsis. Patient with significant
   white count to 10s. on levophed. GI source likely given mesenteric
   ischemia, lung source possible given emesis and aspiration. Lactate
   trending up  again. Feet are blue and mottled, which,per son, happens
   when shes septic. Episode yesterday of hyptension with systolics
   50s-60s. KUB with dilated loops, CXR no change, fluids and increase in
   levophed.
   - Continue broad spectrum antibiotics for now in setting of multiple
   drug resident organisms with vancomycin (risk of MRSA), zosyn and
   gentamycin (for hx of resistent gram -), (day 1: [**11-4**]).
   - blood culture from [**11-4**] growing Diptheria, can discontinue
   Clindamycin for now, zosyn should cover this, and restart flagyl 500mg
   IV q8.
   - f/u surveillence cultures
   - ID consult appreciated, will follow up recs.
   - stool for c diff
   - sputum culture with multiple organisms, will f/u speciation, broad
   coverage as above for now.
   - lactates trending up
   - wean levophed as tolerated, .12 this AM.
   - Use vigileo to assess stroke volume variation and fluid status. [**11-5**],
   SVV 11, so appeared euvolemic. duiring the day it had trended up, but
   this AM low, 11 this AM.
   - if requires second pressor, will start stress dose steroids.
   Mesenteric Ischemia: Evidence with pneumotosis bowel on CT scan.
   Surgery is following, and re-evluating utility of surgery with the
   family daily. KUB still shows dilated loops of bowel
   - fluid recuscutation, broad spectrum abx
   - Lactate trending down
   - NPO
 starting TPN
   - morphine for pain control
   - per [**Doctor First Name **] and GI, risks of heparin for mesenteric ischemia outway
   benefits in her case
   - daily KUB
   PVD: patient with dopplerable pulses on admission, now not dopplerable
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infecetion and electrolyte abnormalities.
   - will try treating pain
   - fluid boluses.
   - cannot use metoprolol or dilt in the setting of shock.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. per aide in room she usually
   moves extremities. differential includes old stroke, current infection,
   hypernatremia, morphine and ativan given in the ED
   - Hypernatremia: resolved
   - Infection: abx
   - Medications: will use narcotics with caution
   COPD/Respiratory : On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD
   - follow gasses
   - albuterol, atrovent, fluticasone inhalers.
   ESRD: last HD was Monday. MWF. etiology is likely HTN. CVVH started
   yesterday, stopped for episode of hypotension
   - BUN increasing
   - continue CVVH, run even
   Gap metabolic acidosis: bicarb 18, gap 20. likely in setting of high
   lactate and kidney failure, resoliving with CVVH
   - will  monitor
   Upper GI bleed: coffee ground emesis, lavage still coffee ground.
   currently hct is stable,  but blood pressure is trending down.
   Considering ulcer, gastritis, GI malignancy given has hx of colon CA,
   AVM, [**Doctor First Name 1856**]-[**Doctor Last Name **] in setting of emesis.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   - Hct daily
   - NPO
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at home
   - will check Hct daily
   - will transfuse for precipitous drop
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   FEN: has been NPO for several days, should start nutrition. Nutrition
   consult for TPN recs
   Access: Right femoral line and left arm a line.
   PPX: heparin sc, PPI
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN without Lipids - [**2188-11-7**] 12:00 AM 41.[**Telephone/Fax (3) 1761**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-4**] 11:00 AM
   20 Gauge - [**2188-11-4**] 01:57 PM
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Arterial Line - [**2188-11-4**] 04:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code: chemical code only, no shocks no compressions
   Disposition:ICU

2188-11-08 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2188-11-7**] 10:00 AM
 ARTERIAL LINE - STOP [**2188-11-8**] 12:05 AM
 PEG INSERTION - At [**2188-11-8**] 12:30 AM
   Pt pulled out her PEG tube.  Dr. [**Last Name (STitle) 5589**] at bedside replaced with foley
   catheter- balloon is not inflated.
 ARTERIAL LINE - START [**2188-11-8**] 01:05 AM
   - Pt pulled out her PEG and her a-line!
   - Foley placed in PEG tract (balloon NOT inflated), d/w surgery, will
   need contrast peg study in AM and GI c/s
   - A-line replaced
   - Per ID, change Gent to 300 q 48 (get trough before next q 24h dose,
   give dose, then get peak and trough thereafter, then start Gent 300 IV
   q 48)
   - Digoxin for rate control
   - This AM, CVVH line not drawing, high access pressures, will need new
   line
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-5**] 12:00 PM
   Azithromycin - [**2188-11-5**] 06:00 PM
   Clindamycin - [**2188-11-6**] 05:00 PM
   Vancomycin - [**2188-11-7**] 10:00 AM
   Gentamicin - [**2188-11-7**] 08:00 PM
   Metronidazole - [**2188-11-8**] 04:00 AM
   Piperacillin - [**2188-11-8**] 06:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-8**] 12:00 AM
   Morphine Sulfate - [**2188-11-8**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-8**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 129 (114 - 137) bpm
   BP: 103/46(60) {77/39(2) - 140/61(82)} mmHg
   RR: 21 (16 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 10 (6 - 23)mmHg
   Total In:
                                                                  7,482 mL
                                                                  3,043 mL
   PO:
   TF:
   IVF:
                                                                  6,465 mL
                                                                  2,703 mL
   Blood products:
   Total out:
                                                                  3,353 mL
                                                                  1,665 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,129 mL
                                                                  1,378 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 650 (650 - 650) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 36 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.30/53/69/23/0
   Ve: 13.9 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   8.5 g/dL
   165 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   33 mg/dL
   100 mEq/L
   137 mEq/L
   26.8 %
   22.6 K/uL
        [image002.jpg]
                             [**2188-11-7**]  12:23 AM
                             [**2188-11-7**]  12:30 AM
                             [**2188-11-7**]  05:59 AM
                             [**2188-11-7**]  06:04 AM
                             [**2188-11-7**]  01:08 PM
                             [**2188-11-7**]  01:21 PM
                             [**2188-11-7**]  08:11 PM
                             [**2188-11-7**]  08:33 PM
                             [**2188-11-8**]  02:00 AM
                             [**2188-11-8**]  02:05 AM
   WBC
   19.7
   18.1
   22.6
   Hct
   25.8
   25.4
   26.8
   Plt
   247
   229
   242
   Cr
   3.0
   2.4
   1.9
   2.1
   1.7
   TCO2
   23
   24
   25
   26
   27
   Glucose
   176
   154
   167
   138
   165
   Other labs: PT / PTT / INR:15.0/150.0/1.3, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:19/22, Alk Phos / T Bili:71/0.3,
   Amylase / Lipase:41/25, Differential-Neuts:91.3 %, Band:0.0 %,
   Lymph:5.6 %, Mono:2.2 %, Eos:0.9 %, Fibrinogen:632 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:2.8 g/dL, LDH:217 IU/L, Ca++:9.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs:
   Lactate 2.7
   Microbiology: [**11-5**] OP flora
   [**11-4**] blood
   CORYNEBACTERIUM DIPHTHEROIDS
   ERYTHROMYCIN----------   =>4 R
   GENTAMICIN------------     8 I
   PENICILLIN G----------     2 I
   VANCOMYCIN------------   <=1 S
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here mesenteric ischemia
   and septic shock
   Septic Shock: Corynbacterium dipthroid sepsis. On levophed. GI source
   likely given mesenteric ischemia, lung source possible given emesis and
   aspiration. Lactate trending up  again. Feet are blue and mottled,
   which,per son, happens when shes septic. Episode [**11-6**] of hyptension
   with systolics 50s-60s. KUB with dilated loops, CXR no change, fluids
   and increase in levophed.
   - Continue broad spectrum antibiotics for now in setting of multiple
   drug resident organisms with vancomycin (risk of MRSA), zosyn and
   gentamycin (for hx of resistent gram -), and flagyl 500mg IV q8.  (day
   1: [**11-4**]).
   - blood culture from [**11-4**] growing Diptheria, sensitive to vanc
   - f/u surveillence cultures
   - ID consult appreciated, will follow up recs.
   - stool for c diff
   - sputum culture with multiple organisms, will f/u speciation, broad
   coverage as above for now.
   - lactates trending up
   - wean levophed as tolerated, up to .35 this AM.
   - Use vigileo to assess stroke volume variation and fluid status. [**11-5**],
   SVV 11, so appeared euvolemic. duiring the day it had trended up, but
   this AM low, 11 this AM.
   - if requires second pressor, will start stress dose steroids.
   Mesenteric Ischemia: Evidence with pneumotosis bowel on CT scan.
   Surgery is following, and re-evluating utility of surgery with the
   family daily. KUB still shows dilated loops of bowel
   - fluid recuscutation, broad spectrum abx
   - Lactate trending up
   - NPO
 on TPN
   - morphine for pain control
   - per [**Doctor First Name **] and GI, risks of heparin for mesenteric ischemia outway
   benefits in her case
   - daily KUB
   PVD: patient with dopplerable pulses on admission, now not dopplerable
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infecetion and electrolyte abnormalities.
   - will try treating pain
   - fluid boluses.
   - cannot use metoprolol or dilt in the setting of shock.
   - now on digoxin with some improvement
   ESRD: last HD was Monday. MWF. etiology is likely HTN. CVVH now on
   hold, HD catheter is not functioning
   - will touch base wiht dialysis fellow, will likely need new line.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. per aide in room she usually
   moves extremities. differential includes old stroke, current infection,
   hypernatremia, morphine and ativan given in the ED
   - Hypernatremia: resolved
   - Infection: abx
   - Medications: will use narcotics with caution
   COPD/Respiratory : On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD
   - follow gasses
   - albuterol, atrovent, fluticasone inhalers.
   Upper GI bleed: coffee ground emesis, lavage still coffee ground.
   currently hct is stable,  but blood pressure is trending down.
   Considering ulcer, gastritis, GI malignancy given has hx of colon CA,
   AVM, [**Doctor First Name 1856**]-[**Doctor Last Name **] in setting of emesis.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   - Hct daily
   - NPO
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at home
   - will check Hct daily
   - will transfuse for precipitous drop
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
    FEN: has been NPO for several days, should start nutrition. Nutrition
   consult for TPN recs
   Access: Right femoral line and left arm a line.
   PPX: heparin sc, PPI
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN without Lipids - [**2188-11-7**] 12:00 AM 45.[**Telephone/Fax (5) 5797**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-4**] 11:00 AM
   20 Gauge - [**2188-11-4**] 01:57 PM
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Arterial Line - [**2188-11-8**] 01:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code: chemical code only, no shocks no compressions
   Disposition:ICU

2188-11-09 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - maxed out on Levophed .35 - .4 mcgs/kg but down to .25 this AM.
   - started stress dose steroids
   - line clogged, fixed with tPA
   [ ] GI aware of PEG tube, need to figure out who put it in
   - on Digoxin for atrial fibrillation
   - off CVVH off all night because catheter not functioning
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Clindamycin - [**2188-11-6**] 05:00 PM
   Vancomycin - [**2188-11-7**] 10:00 AM
   Gentamicin - [**2188-11-8**] 09:07 PM
   Piperacillin - [**2188-11-9**] 01:00 AM
   Metronidazole - [**2188-11-9**] 04:44 AM
   Infusions:
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2188-11-8**] 04:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-9**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (96.9
   HR: 93 (89 - 128) bpm
   BP: 108/48(65) {72/38(48) - 121/55(73)} mmHg
   RR: 19 (16 - 23) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
    CVP: 26 (10 - 29)mmHg
   Total In:
                                                                  6,956 mL
                                                                    949 mL
   PO:
   TF:
   IVF:
                                                                  5,708 mL
                                                                    530 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,206 mL
                                                                    949 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 650) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.37/44/74/25/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 123
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: )
   Extremities: Right: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   265 K/uL
   7.6 g/dL
   166 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.0 mEq/L
   38 mg/dL
   98 mEq/L
   134 mEq/L
   23.8 %
   22.5 K/uL
        [image002.jpg]
                             [**2188-11-7**]  01:08 PM
                             [**2188-11-7**]  01:21 PM
                             [**2188-11-7**]  08:11 PM
                             [**2188-11-7**]  08:33 PM
                             [**2188-11-8**]  02:00 AM
                             [**2188-11-8**]  02:05 AM
                             [**2188-11-8**]  12:41 PM
                             [**2188-11-8**]  12:55 PM
                             [**2188-11-9**]  12:24 AM
                             [**2188-11-9**]  04:19 AM
   WBC
   18.1
   22.6
   17.2
   22.5
   Hct
   25.4
   26.8
   23.4
   23.8
   Plt
   [**Telephone/Fax (3) 5804**]65
   Cr
   1.9
   2.1
   1.7
   1.9
   2.0
   TCO2
   25
   26
   27
   27
   26
   Glucose
   167
   138
   165
   148
   166
   Other labs: PT / PTT / INR:12.9/34.5/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:19/22, Alk Phos / T Bili:71/0.3,
   Amylase / Lipase:41/25, Differential-Neuts:92.4 %, Band:0.0 %,
   Lymph:4.0 %, Mono:3.3 %, Eos:0.1 %, Fibrinogen:632 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.8 g/dL, LDH:217 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs:
   Hct slowly trending down
   Gent trough 0.6, peak 2.4
   lactate 2.0 at midnight, 1.9 prior, and in the higher 2 range before
   that.  1.3 on repeat in AM
   Microbiology: [**11-5**] gram stain:
   4+ GRAM NEGATIVE ROD(S).
   3+ GRAM POSITIVE ROD(S).
   1+ GRAM POSITIVE COCCI IN PAIRS.
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here mesenteric ischemia
   and septic shock
   Septic Shock: Corynbacterium dipthroid sepsis. On levophed. GI source
   likely given mesenteric ischemia, lung source possible given emesis and
   aspiration. now 2. Episode [**11-6**] of hyptension with systolics 50s-60s.
   KUB with dilated loops, CXR no change, fluids and levophed now down to
   .25
   - Continue broad spectrum antibiotics for now in setting of multiple
   drug resident organisms with vancomycin (risk of MRSA), zosyn and
   gentamycin (for hx of resistent gram -), and flagyl 500mg IV q8.  (day
   1: [**11-4**]).
   - blood culture from [**11-4**] growing Diptheria, sensitive to vanc
   - f/u surveillence cultures
   - ID consult appreciated, will follow up recs.
   - stool for c diff when makes stool
   - sputum culture with multiple organisms, will not speciate, broad
   coverage as above for now.
   - lactates trending down again
   - wean levophed as tolerated, up to .20 this AM.
   - Started stress dose steroids today, hydrocort 50mg q6h.
   Mesenteric Ischemia: Evidence with pneumotosis bowel on CT scan.
   Surgery is following, and re-evluating utility of surgery with the
   family daily. KUB still shows dilated loops of bowel. per [**Doctor First Name **] and GI,
   risks of heparin for mesenteric ischemia outway benefits in her case
   - fluid recuscutation, broad spectrum abx
   - Lactate trending down again
   - on TPN
   - morphine for pain control
   - daily KUB
   - Plan in re-imagine abdomen with CTA of SMA if patient remains stable
   without escalating pressors. Will order CTA when CVVH catheter has been
   replaced. Plan for Monday if she remains stable.
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving.
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - will try treating pain
   - fluid boluses.
   - now on digoxin with some improvement, will check  level in the AM and
   will start .125 if needed., hold for now since rate is normal.
   ESRD: last HD was Monday. MWF. etiology is likely HTN. CVVH now on
   hold, HD catheter is not functioning
   - dialysis fellow aware, will likely replace line.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. per aide in room she usually
   moves extremities. differential includes old stroke, current infection,
   hypernatremia, morphine and ativan given in the ED
   - Hypernatremia: resolved
   - Infection: abx
   - Medications: will use narcotics with caution
   COPD/Respiratory : On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD. Peak pressures have
   been high, so decreased tV to 55o, and increased rate. Will check gas
   and increase rate as needed.
   - follow gasses
   - albuterol, atrovent, fluticasone inhalers.
   Upper GI bleed: coffee ground emesis, lavage still coffee ground.
   currently hct is stable,  but blood pressure is trending down.
   Considering ulcer, gastritis, GI malignancy given has hx of colon CA,
   AVM, [**Doctor First Name 1856**]-[**Doctor Last Name **] in setting of emesis.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   - Hct daily
   - NPO
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at home
   - will check Hct daily
   - will transfuse for precipitous drop or hct <21
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
    FEN: TPN
   Access: Right femoral line and left arm a line.
   PPX: heparin sc, PPI
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN without Lipids - [**2188-11-8**] 06:56 PM 58.[**Telephone/Fax (3) 5805**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-4**] 11:00 AM
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Arterial Line - [**2188-11-8**] 01:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code: chemical code only, no shocks,  no compressions
   Disposition:

2188-11-10 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Concern for SVC syndrome given dialysis catheter not withdrawing,
   increasing facial and upper extremity edema, so CT chest obtained:
   question of fibrin at end of catheter, clot in common jugular
   (appearing old), and stenosis of right subclavian vein at junction.
   - CT abdomen obtained while patient getting CT chest--demonstrated
   illeus, no other new acute findings
   - Upon return from CT, tachycardic to 150's-160's. Gave digoxin 0.0625
   mg IV, small dose of morphine for pain, HR improved to 80-90's, was
   briefly off levophed, then started back at lower dose (0.1mg/kg/min)
   - IR consulted, planning to change dialysis line today, possibly take
   out fibrin clot if possible; IR team spoke with son with plan, son
   requesting mucomyst if possible prior to procedure.
   - Plan to re-start CVVH after line exchanged.
   - Added sensitivities to pseudomonas and corynebacterium given
   corynebacterium was intermediate to gentamicin.
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-11-7**] 10:00 AM
   Gentamicin - [**2188-11-8**] 09:07 PM
   Metronidazole - [**2188-11-9**] 09:28 PM
   Piperacillin - [**2188-11-10**] 12:11 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-9**] 09:29 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-10**] 12:11 AM
   Morphine Sulfate - [**2188-11-10**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-10**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 72 (72 - 131) bpm
   BP: 86/34(49) {85/34(49) - 121/91(97)} mmHg
   RR: 20 (15 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 24 (18 - 28)mmHg
   Total In:
                                                                  2,824 mL
                                                                    671 mL
   PO:
   TF:
   IVF:
                                                                  1,421 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,824 mL
                                                                    671 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Vent Dependant, CMO, No Spon Resp
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.37/45/99.[**Numeric Identifier 253**]/23/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 167
   Physical Examination
   Gen: Chronically ill, trached on vent
   HEENT:
   Lungs:
   Heart:
   Abd:
   Ext:
   Neuro:
   Labs / Radiology
   296 K/uL
   7.5 g/dL
   161
   2.5 mg/dL
   23 mEq/L
   4.1 mEq/L
   51 mg/dL
   98 mEq/L
   134 mEq/L
   22.8 %
   21.1 K/uL
        [image002.jpg]
                             [**2188-11-8**]  02:00 AM
                             [**2188-11-8**]  02:05 AM
                             [**2188-11-8**]  12:41 PM
                             [**2188-11-8**]  12:55 PM
                             [**2188-11-9**]  12:24 AM
                             [**2188-11-9**]  04:19 AM
                             [**2188-11-9**]  08:05 AM
                             [**2188-11-9**]  05:19 PM
                             [**2188-11-10**]  02:49 AM
                             [**2188-11-10**]  06:00 AM
   WBC
   22.6
   17.2
   22.5
   21.1
   Hct
   26.8
   23.4
   23.8
   22.8
   Plt
   [**Telephone/Fax (3) 5827**]96
   Cr
   1.7
   1.9
   2.0
   2.3
   2.5
   TCO2
   27
   27
   26
   27
   Glucose
   165
   148
   166
   144
   161
   Other labs: PT / PTT / INR:12.7/29.8/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:19/22, Alk Phos / T Bili:71/0.3,
   Amylase / Lipase:41/25, Differential-Neuts:90.3 %, Band:0.0 %,
   Lymph:5.4 %, Mono:4.1 %, Eos:0.1 %, Fibrinogen:632 mg/dL, Lactic
   Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:217 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.8 mg/dL
   MICRO:
   - Sputum [**11-5**]: pseudomonas
   - Blood cx [**11-4**]: cornebacterium
   IMAGING:
   - CT chest [**11-9**]: 1. R SC stenosis 2. bilt effusions 3. A-F levels, no
   pneumotosis 4. Distended GB
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here mesenteric ischemia
   and septic shock
   Septic Shock: Corynbacterium dipthroid sepsis. On levophed. GI source
   likely given mesenteric ischemia, lung source possible given emesis and
   aspiration. CT a/p with air fluid levels, no pneumotosis no repeat scan
   yesterday.
   - Continue broad spectrum antibiotics for now in setting of multiple
   drug resident organisms with vancomycin (risk of MRSA), zosyn and
   gentamycin (for hx of resistent gram -), and flagyl 500mg IV q8.  (day
   1: [**11-4**]).
   - blood culture from [**11-4**] growing Diptheria, sensitive to vanc
   - f/u surveillence cultures
   - ID consult appreciated, will follow up recs.
   - stool for c diff when makes stool
   - sputum culture with multiple organisms, will not speciate, broad
   coverage as above for now.
   - wean levophed as tolerated
   - Started stress dose steroids, hydrocort 50mg IV q6h.
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - Foley in PEG tract; contact GI for replacement of PEG
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving.
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - will try treating pain
   - fluid boluses.
   - now on digoxin with some improvement, will check  level and dose prn
   ESRD: last HD was Monday. MWF. etiology is likely HTN. CVVH now on
   hold, HD catheter is not functioning
   - dialysis fellow aware, plan for IR today
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. per aide in room she usually
   moves extremities.
   - Hypernatremia: resolved
   - Infection: abx
   - Medications: will use narcotics with caution
   COPD/Respiratory : On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD. Peak pressures have
   been high, so decreased tV to 55o, and increased rate.
   - follow gasses
   - albuterol, atrovent, fluticasone inhalers.
   Upper GI bleed: coffee ground emesis, lavage still coffee ground.
   currently hct is stable,  but blood pressure is trending down.
   Considering ulcer, gastritis, GI malignancy given has hx of colon CA,
   AVM, [**Doctor First Name 1856**]-[**Doctor Last Name **] in setting of emesis.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   - Hct daily
   - NPO
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at home
   - will check Hct daily
   - will transfuse for precipitous drop or hct <21
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
    FEN: TPN
   Access: Right femoral line and left radial a-line, L tunneled HD line.
   PPX: heparin sc, PPI
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN without Lipids - [**2188-11-8**] 06:56 PM 58.[**Telephone/Fax (3) 5805**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-4**] 11:00 AM
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Arterial Line - [**2188-11-8**] 01:05 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code: chemical code only, no shocks,  no compressions
   Disposition: ICU
   ------ Protected Section ------
   EXAM:
   Gen: Awake, appears in pain with palpation of abd
   HEENT: PERRL
   Neck: trach site intact
   Lungs: Coarse BS bilaterally
   Abd: Scant BS; firm, tender to palpation diffusely
   Ext: Warm, perfusion improved, no mottling of the feet
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 5589**], MD
   on:[**2188-11-10**] 11:51 ------

2188-11-11 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2188-11-10**] 02:28 PM
 DIALYSIS CATHETER - START [**2188-11-10**] 05:29 PM
   - IR replaced HD line
   - ABG: 7.32/45/79/24 lactate 1.3
   - Pulled out foley from PEG site (again), replaced with 20F foley
   (reportedly son does not want mittens)
   - On low levophed most of day
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2188-11-10**] 11:00 AM
   Gentamicin - [**2188-11-11**] 12:06 AM
   Metronidazole - [**2188-11-11**] 04:58 AM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-11**] 06:20 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-10**] 08:12 AM
   Morphine Sulfate - [**2188-11-10**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-11**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-11**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.1
C (97
   HR: 89 (72 - 109) bpm
   BP: 90/42(56) {85/38(52) - 137/61(83)} mmHg
   RR: 18 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 91 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  2,122 mL
                                                                  2,338 mL
   PO:
             TF:
   IVF:
                                                                    795 mL
                                                                  1,884 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  2,073 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,122 mL
                                                                    265 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: 7.32/48/113/20/-1
   Ve: 12.1 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Gen: Awake, appears in pain with palpation of abd
   HEENT: PERRL, facial edema unchanged from weekend.
   Neck: trach site intact
   Lungs: Coarse BS bilaterally
   Abd: Scant BS; firm, tender to palpation diffusely, but appears less
   tender today.
   Ext: Warm, perfusion improved, no mottling of the feet
   Labs / Radiology
   308 K/uL
   7.0 g/dL
   180 mg/dL
   2.3 mg/dL
   20 mEq/L
   4.0 mEq/L
   54 mg/dL
   98 mEq/L
   133 mEq/L
   21.6 %
   18.5 K/uL
        [image002.jpg]
                             [**2188-11-9**]  12:24 AM
                             [**2188-11-9**]  04:19 AM
                             [**2188-11-9**]  08:05 AM
                             [**2188-11-9**]  05:19 PM
                             [**2188-11-10**]  02:49 AM
                             [**2188-11-10**]  06:00 AM
                             [**2188-11-10**]  07:21 PM
                             [**2188-11-10**]  07:48 PM
                             [**2188-11-11**]  05:34 AM
                             [**2188-11-11**]  05:48 AM
   WBC
   22.5
   21.1
   18.5
   Hct
   23.8
   22.8
   21.6
   Plt
   265
   296
   308
   Cr
   2.0
   2.3
   2.5
   2.8
   2.3
   TCO2
   26
   27
   24
   26
   Glucose
   166
   144
   161
   141
   180
   Other labs: PT / PTT / INR:12.9/33.5/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:14/20, Alk Phos / T Bili:74/0.2,
   Amylase / Lipase:72/56, Differential-Neuts:93.9 %, Band:0.0 %,
   Lymph:2.8 %, Mono:3.2 %, Eos:0.1 %, Fibrinogen:632 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:198 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs:
   lactate 1.6
   Imaging:
   [**11-9**]: ct chest abd
   IMPRESSION:
   1. Attenuated appearance of the right brachiocephalic vein with poorly
   delineated inflow from the right subclavian vein, possibly representing
   stenosis. Eccentric clot in a normal caliber common right jugular vein.
   Patent left brachiocephalic vein and SVC, with a left- sided central
   venous
   catheter coursing to the SVC/right atrial junction.
   2. Ascites.
   3. Increased bilateral effusions and bilateral lower lobe atelectasis.
   4. Findings suggestive of ileus, with no evidence of obstruction or
   pneumotosis.
   5. Distended gallbladder with cholelithiasis.
   Microbiology: 10/2 blood culture NTD
   [**11-5**] sputum:
    PSEUDOMONAS AERUGINOSA
   CEFEPIME--------------    16 I
   CEFTAZIDIME-----------    32 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     4 S
   MEROPENEM-------------     4 S
   PIPERACILLIN---------- =>128 R
   PIPERACILLIN/TAZO-----       S
   TOBRAMYCIN------------   <=1 S
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here mesenteric ischemia
   and septic shock
   Septic Shock: Corynbacterium dipthroid sepsis. On levophed. GI source
   likely given mesenteric ischemia, lung source possible given emesis and
   aspiration.
   - Continue broad spectrum antibiotics for now in setting of multiple
   drug resident organisms with vancomycin (risk of MRSA), zosyn and
   gentamycin (for hx of resistent gram -), and flagyl 500mg IV q8.  (day
   1: [**11-4**]).
   - treat for 2 week course for Bacteremia and VAP
   - Diptheria Bacteremia: blood culture from [**11-4**] , vancomycin (day 1:
   [**11-4**])
   - VAP: pseudomonas sensitive to gent and Zosyn(day 1L [**11-4**])
   - f/u surveillence cultures
   - ID consult appreciated, they signed off, will call back with
   questions ([**Location (un) **])
   - stool for c diff when makes stool
   - wean levophed as tolerated, 0.08 this AM
   - stress dose steroids, hydrocort 50mg IV q6h. (day 1: [**11-8**])
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan yesterday. Now making STOOL
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - Foley in PEG tract; contact GI for replacement of PEG
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving.
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - will try treating pain
   - fluid boluses.
   - now on digoxin with some improvement, will check  level and dose prn
   ESRD: last HD was Monday. MWF. etiology is likely HTN. CVVH catheter
   replaced10/6, back on CVVH
   - will try to take fluid off today given significant edema.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. per aide in room she usually
   moves extremities.
   - Hypernatremia: resolved
   - Infection: abx
   - Medications: will use narcotics with caution
   COPD/Respiratory : On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD. Peak pressures have
   been high, so decreased tV to 55o, and increased rate.  Will continue
   at this rate, not ovebreathing vent PC)2 48.
   - follow gasses
   - albuterol, atrovent, fluticasone inhalers.
   Upper GI bleed: resolved. Admitted with coffee ground emesis. Pulled
   out foley in peg tract [**11-10**]
   - GI consult appreciated: will wait until stable to scope
   - GI will replace PEG tune today.
   - IV PPI [**Hospital1 **]
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at home
   - will check Hct daily
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
    FEN: TPN
   Access: Right femoral line and left radial a-line, L tunneled HD line.
   PPX: heparin sc, PPI
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-10**] 06:58 PM 58.[**Telephone/Fax (5) 2077**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Arterial Line - [**2188-11-8**] 01:05 AM
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI IV
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code: chemical code only, no  compressions, no shocks
   Disposition:ICU

2188-11-12 08:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PEG INSERTION - At [**2188-11-11**] 10:30 AM
 STOOL CULTURE - At [**2188-11-11**] 12:00 PM
 ARTERIAL LINE - STOP [**2188-11-12**] 04:31 AM
   -          Dig 0.8
 0.125 given
   -          Removed fluid on CVVH: negative 1 L yesterday
   -          Weaning levophed
   -          A-line lost
   -          GI placed new PEG
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-11-11**] 10:00 AM
   Gentamicin - [**2188-11-11**] 10:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-12**] 03:00 AM
   Metronidazole - [**2188-11-12**] 04:00 AM
   Piperacillin - [**2188-11-12**] 08:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-12**] 12:00 AM
   Pantoprazole (Protonix) - [**2188-11-12**] 08:00 AM
   Morphine Sulfate - [**2188-11-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-12**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 88 (78 - 106) bpm
   BP: 92/62(106) {80/45(55) - 119/66(106)} mmHg
   RR: 15 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 91 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  7,550 mL
                                                                  2,578 mL
   PO:
             TF:
   IVF:
                                                                  6,152 mL
                                                                  2,093 mL
   Blood products:
   Total out:
                                                                  8,727 mL
                                                                  2,712 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,177 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 42.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.32/49/101/28/-1
   Ve: 11 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Gen: Awake, not following commands
   HEENT: PERRL
   Neck: Trach in place
   Lungs: Coarse BS bilaterally
   Heart: s1s2 irregular
   Abd: softer than prior, still TTP
   Ext: Feet warm, appear adequately perfsued at present
   Labs / Radiology
   264 K/uL
   7.2 g/dL
   189 mg/dL
   1.5 mg/dL
   28 mEq/L
   3.8 mEq/L
   32 mg/dL
   97 mEq/L
   138 mEq/L
   22.3 %
   16.1 K/uL
        [image002.jpg]
                             [**2188-11-10**]  07:21 PM
                             [**2188-11-10**]  07:48 PM
                             [**2188-11-11**]  05:34 AM
                             [**2188-11-11**]  05:48 AM
                             [**2188-11-11**]  11:49 AM
                             [**2188-11-11**]  12:26 PM
                             [**2188-11-11**]  06:20 PM
                             [**2188-11-11**]  06:30 PM
                             [**2188-11-12**]  12:19 AM
                             [**2188-11-12**]  06:12 AM
   WBC
   18.5
   16.3
   16.1
   Hct
   21.6
   22.1
   22.3
   Plt
   [**Telephone/Fax (3) 5887**]
   Cr
   2.8
   2.3
   2.0
   1.8
   1.5
   TCO2
   24
   26
   25
   26
   Glucose
   141
   180
   171
   161
   136
   189
   Other labs: PT / PTT / INR:13.4/37.9/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:[**12-24**], Alk Phos / T Bili:75/0.2,
   Amylase / Lipase:93/85, Differential-Neuts:92.6 %, Band:0.0 %,
   Lymph:4.0 %, Mono:3.3 %, Eos:0.1 %, Fibrinogen:632 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Imaging:
   [**11-9**]: ct chest abd
   IMPRESSION:
   1. Attenuated appearance of the right brachiocephalic vein with poorly
   delineated inflow from the right subclavian vein, possibly representing
   stenosis. Eccentric clot in a normal caliber common right jugular vein.
   Patent left brachiocephalic vein and SVC, with a left- sided central
   venous
   catheter coursing to the SVC/right atrial junction.
   2. Ascites.
   3. Increased bilateral effusions and bilateral lower lobe atelectasis.
   4. Findings suggestive of ileus, with no evidence of obstruction or
   pneumotosis.
   5. Distended gallbladder with cholelithiasis.
   Microbiology: 10/2 blood culture NTD
   [**11-5**] sputum:
    PSEUDOMONAS AERUGINOSA
   CEFEPIME--------------    16 I
   CEFTAZIDIME-----------    32 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     4 S
   MEROPENEM-------------     4 S
   PIPERACILLIN---------- =>128 R
   PIPERACILLIN/TAZO-----       S
   TOBRAMYCIN------------   <=1 S
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here mesenteric ischemia
   and septic shock
   Septic Shock: Corynbacterium dipthroid sepsis. On levophed, transiently
   off. GI source likely given mesenteric ischemia, lung source possible
   given emesis and aspiration.
   - Continue broad spectrum antibiotics for now in setting of multiple
   drug resident organisms with vancomycin (risk of MRSA), zosyn and
   gentamycin (for hx of resistent gram -), and flagyl 500mg IV q8.  (day
   1: [**11-4**]).
   - treat for 2 week course for Bacteremia and VAP
   - Diptheria Bacteremia: blood culture from [**11-4**] , vancomycin (day 1:
   [**11-4**])
   - VAP: pseudomonas sensitive to gent and Zosyn(day 1L [**11-4**])
   - f/u surveillence cultures
   - ID consult appreciated, they signed off, will call back with
   questions ([**Location (un) **])
   - stool for c diff
   - wean levophed as tolerated, use as needed to take off volume with
   CVVH
   - stress dose steroids, hydrocort 50mg IV q6h. (day 1: [**11-8**]), will stop
   once off pressors
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan yesterday. Now making STOOL
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving.
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - On digoxin with some improvement, will check  level and dose prn
   ESRD: last HD was Monday. MWF. CVVH catheter replaced10/6, back on
   CVVH.
   - will try to take fluid off today given significant edema.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. per aide in room she usually
   moves extremities.
   - Hypernatremia: resolved
   - Infection: abx
   - Medications: will use narcotics with caution
   COPD/Respiratory : On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD. Peak pressures have
   been high, so decreased tV to 55o, and increased rate.  Will continue
   at this rate, not ovebreathing vent PC)2 48.
   - follow gasses
   - albuterol, atrovent, fluticasone inhalers.
   Upper GI bleed: resolved. Admitted with coffee ground emesis. Pulled
   out foley in peg tract [**11-10**]. No obvious active bleeding.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at home
   - will check Hct daily
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
    FEN: TPN
   Access: Right femoral line and new R radial a-line, L tunneled HD
   line.
   PPX: heparin sc, PPI
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-11**] 07:00 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: chemical code ONLY
   Disposition: ICU

2188-11-13 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2188-11-12**] 01:01 PM
   - A-line replaced, damped wave form but was initially correlating with
   non-invasive, then did not correlate (A-line MAP was 50, Non-invasive
   was 75)
   - Received one unit of PRBCs with marked improvement in MAP
   - Continued CVVH
   - Back on max dose levophed and eventually weaned down to 0.15
   mcg/kg/min, started to again take off small amount of fluid with CVVH
   - Emailed primary nephrologist regarding magnesium goals: no particular
   magnesium goals out of ordinary from his standpoint
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-11-11**] 10:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-12**] 03:00 AM
   Gentamicin - [**2188-11-12**] 08:00 PM
   Piperacillin - [**2188-11-13**] 02:00 AM
   Metronidazole - [**2188-11-13**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.15 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-13**] 12:00 AM
   Morphine Sulfate - [**2188-11-13**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-13**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 86 (83 - 127) bpm
   BP: 57/43(50) {47/38(43) - 83/63(72)} mmHg
   RR: 23 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 91 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  8,515 mL
                                                                  2,441 mL
   PO:
             TF:
   IVF:
                                                                  6,740 mL
                                                                  2,000 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  7,994 mL
                                                                  2,454 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    521 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 31 cmH2O
   SpO2: 100%
   ABG: 7.42/47/73.[**Numeric Identifier 607**]/28/4
   Ve: 14.3 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   9.0 g/dL
   133 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.8 mEq/L
   28 mg/dL
   95 mEq/L
   136 mEq/L
   26.5 %
   24.0 K/uL
        [image002.jpg]
                             [**2188-11-12**]  12:19 AM
                             [**2188-11-12**]  06:12 AM
                             [**2188-11-12**]  11:53 AM
                             [**2188-11-12**]  12:01 PM
                             [**2188-11-12**]  06:12 PM
                             [**2188-11-12**]  06:35 PM
                             [**2188-11-12**]  11:52 PM
                             [**2188-11-13**]  12:07 AM
                             [**2188-11-13**]  05:59 AM
                             [**2188-11-13**]  06:08 AM
   WBC
   16.1
   22.6
   24.0
   Hct
   22.3
   23.2
   27.5
   26.5
   Plt
   [**Telephone/Fax (3) 5906**]
   Cr
   1.5
   1.4
   1.3
   TCO2
   31
   31
   32
   32
   Glucose
   136
   189
   147
   182
   133
   Other labs: PT / PTT / INR:13.3/34.9/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:[**12-24**], Alk Phos / T Bili:75/0.2,
   Amylase / Lipase:93/85, Differential-Neuts:92.6 %, Band:0.0 %,
   Lymph:4.0 %, Mono:3.3 %, Eos:0.1 %, Fibrinogen:632 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:214 IU/L, Ca++:9.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs:
   lactate 1.4, 2.1, 1.9
   Microbiology: [**11-5**] sputum
   PSEUDOMONAS AERUGINOSA
                                |          |
   CEFEPIME-------     16 I        8 S
   CEFTAZIDIME---     32 R        8 S
   CIPROFLOXACIN--  4 R        2 I
   GENTAMICIN--         4 S        4 S
   MEROPENEM----      4 S        4 S
   PIPERACILLIN------- 128 R    =>128 R
   PIPERACILLIN/TAZO     S       16 S
   TOBRAMYCIN-----  <=1 S      <=1 S
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here mesenteric ischemia
   and septic shock
   Septic Shock: Corynbacterium dipthroid in blood, pseudomonas in sputum.
   back on levophed. GI source likely given mesenteric ischemia.
   - Continue broad spectrum antibiotics for now in setting of multiple
   drug resident organisms with vancomycin (risk of MRSA), zosyn and
   gentamycin (for hx of resistent gram -), and flagyl 500mg IV q8.  (day
   1: [**11-4**]).
   - treat for 2 week course for Bacteremia and VAP
   - Diptheria Bacteremia: blood culture from [**11-4**] , vancomycin (day 1:
   [**11-4**])
   - VAP: pseudomonas sensitive to gent and Zosyn(day 1L [**11-4**])
   - f/u surveillence cultures
   - ID consult appreciated, they signed off, will call back with
   questions ([**Location (un) **])
   - stool for c diff negative
   - wean levophed as tolerated, use as needed to take off volume with CVV
   - stress dose steroids, hydrocort 50mg IV q6h. (day 1: [**11-8**]), will stop
   once off pressors
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan yesterday. Now making STOOL
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving.
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - On digoxin with some improvement, will check  level and dose prn
   ESRD: CVVH catheter replaced10/6, back on CVVH.
   - will try to take fluid off today given significant edema.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. per aide in room she usually
   moves extremities.
   - Hypernatremia: resolved
   - Infection: abx
   - Medications: will use narcotics with caution
   COPD/Respiratory : On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD. Peak pressures have
   been high, so decreased tV to 55o, and increased rate.  Will continue
   at this rate, not ovebreathing vent PCo2 48.
   - follow gasses
   - albuterol, atrovent, fluticasone inhalers.
   Upper GI bleed: resolved. Admitted with coffee ground emesis. Pulled
   out foley in peg tract [**11-10**]. No obvious active bleeding.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at [**Last Name (un) **]
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
    FEN: TPN
   Access: Right femoral line and new R radial a-line, L tunneled HD
   line.
   PPX: heparin sc, PPI
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-12**] 07:00 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate): chemical code only
   Disposition:

2188-11-14 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2188-11-13**] 11:56 AM
 SPUTUM CULTURE - At [**2188-11-13**] 11:56 AM
   - Unable to re-site a-line, L radial is thrombosed
   - Steroids changed to q 12
   - Dig now QOD
   - Levophed up & down
   - Labs with elevated fibrinogen, d-dimer, FDP, and mild elevation of
   coags, with stable Hct, ? early DIC (had bruising on lower abd)
   - ABG at midnite: 7.45/46/83/33
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2188-11-13**] 02:00 AM
   Vancomycin - [**2188-11-13**] 09:57 AM
   Gentamicin - [**2188-11-13**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-14**] 02:00 AM
   Metronidazole - [**2188-11-14**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-13**] 07:59 AM
   Pantoprazole (Protonix) - [**2188-11-13**] 08:00 PM
   Morphine Sulfate - [**2188-11-14**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-14**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (96.9
   HR: 79 (72 - 113) bpm
   BP: 55/42(48) {43/34(39) - 70/59(61)} mmHg
   RR: 25 (13 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 91 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  7,610 mL
                                                                  2,311 mL
   PO:
             TF:
   IVF:
                                                                  6,210 mL
                                                                  1,866 mL
   Blood products:
   Total out:
                                                                  7,972 mL
                                                                  2,922 mL
   Urine:
   NG:
                                                                    175 mL
                                                                    550 mL
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                   -362 mL
                                                                   -611 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 35 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.40/53/81.[**Numeric Identifier 607**]/30/5
   Ve: 12 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   298 K/uL
   8.3 g/dL
   144 mg/dL
   1.1 mg/dL
   30 mEq/L
   3.9 mEq/L
   21 mg/dL
   95 mEq/L
   138 mEq/L
   25.1 %
   30.0 K/uL
        [image002.jpg]
                             [**2188-11-13**]  11:32 AM
                             [**2188-11-13**]  11:52 AM
                             [**2188-11-13**]  12:00 PM
                             [**2188-11-13**]  05:40 PM
                             [**2188-11-13**]  05:58 PM
                             [**2188-11-13**]  07:38 PM
                             [**2188-11-13**]  11:49 PM
                            [**2188-11-14**]  12:02 AM
                            [**2188-11-14**]  05:50 AM
                            [**2188-11-14**]  06:11 AM
   WBC
   30.0
   Hct
   24.1
   25.1
   Plt
   298
   Cr
   1.1
   1.1
   1.1
   TCO2
   32
   34
   33
   34
   Glucose
   156
   160
   117
   140
   144
   Other labs: PT / PTT / INR:13.4/34.0/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:14/21, Alk Phos / T Bili:89/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:92.6 %, Band:0.0 %,
   Lymph:4.0 %, Mono:3.3 %, Eos:0.1 %, D-dimer:4005 ng/mL, Fibrinogen:591
   mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:256 IU/L, Ca++:9.3
   mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Microbiology: [**11-13**] sputum:
   4+  GRAM NEGATIVE ROD(S).
   3 +GRAM POSITIVE ROD(S).
   1+    GRAM POSITIVE COCCI. IN PAIRS.
   1+   BUDDING YEAST WITH pSEUDOHYPHAE
   blood cultures x2 [**11-13**] pending
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here mesenteric ischemia
   and septic shock
   Septic Shock: Corynbacterium dipthroid in blood, pseudomonas in sputum.
   back on levophed. GI source likely given mesenteric ischemia.
   - Continue broad spectrum antibiotics for now in setting of multiple
   drug resident organisms with vancomycin (risk of MRSA), zosyn and
   gentamycin (for hx of resistent gram -), and flagyl 500mg IV q8.  (day
   1: [**11-4**]).
   - patients white count up to 30 today. cultured yesterday, send
   cultures again today. Should broaded coverage, reviewing sensitivity
   data. dont think zosyn is working.
   - treat for 2 week course for Bacteremia and VAP
   - Diptheria Bacteremia: blood culture from [**11-4**] , vancomycin (day 1:
   [**11-4**]) day 11
   - VAP: pseudomonas sensitive to gent and Zosyn(day 1L [**11-4**]) day 11
   - f/u surveillence cultures
   - ID consult appreciated, they signed off, will call back with
   questions ([**Location (un) **])
   - stool for c diff negative
   - wean levophed as tolerated, use as needed to take off volume with
   CVVH
   - wean stress dose steroids, hydrocort 50mg IV from q6h to q12. (day 1:
   [**11-8**])
   - WBC count has been trending up the past 2 days, reculture blood and
   sputum.
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan yesterday. Now making STOOL
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving.
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - .125mg IV qOD
   - check levels daily
   ESRD: CVVH catheter replaced10/6, back on CVVH.
   - will try to take fluid off today given significant edema.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. per aide in room she usually
   moves extremities.
   - Hypernatremia: resolved
   - Infection: abx
   - Medications: will use narcotics with caution
   COPD/Respiratory : On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD.
   Currently stable AC 550/20/10/50%
   - follow gasses
   - albuterol, atrovent, fluticasone inhalers.
   Upper GI bleed: resolved. Admitted with coffee ground emesis. Pulled
   out foley in peg tract [**11-10**]. No obvious active bleeding.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at [**Last Name (un) **]
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   FEN: TPN
   Access: Right femoral line and new R radial a-line, L tunneled HD
   line.
   PPX: heparin sc, PPI
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-13**] 06:31 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate): chemical code only, no
   compressions no shocks
   Disposition:

2188-11-15 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Peep decreased 10->8: gas 7.42/49/104 -- Peep 8--> 5  gas
   7.45/45/106/32
   - dced zosyn and added meropenem
   - dic labs: unlikely DIC
   - levophed up and down
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2188-11-13**] 02:00 AM
   Vancomycin - [**2188-11-13**] 09:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-14**] 09:00 AM
   Gentamicin - [**2188-11-14**] 11:00 PM
   Meropenem - [**2188-11-15**] 04:00 AM
   Metronidazole - [**2188-11-15**] 04:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-14**] 08:59 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-15**] 12:00 AM
   Morphine Sulfate - [**2188-11-15**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-15**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 116 (65 - 116) bpm
   BP: 60/50(55) {51/39(45) - 83/62(71)} mmHg
   RR: 29 (13 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.9 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  8,208 mL
                                                                  2,165 mL
   PO:
             TF:
   IVF:
                                                                  6,433 mL
                                                                  1,708 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 10,559 mL
                                                                  2,161 mL
   Urine:
   NG:
                                                                    850 mL
                                                                    100 mL
   Stool:
                                                                     25 mL
   Drains:
   Balance:
                                                                 -2,351 mL
                                                                      4 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.39/49/77/29/3
   Ve: 13.5 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Gen: Awake, not following commands
   HEENT: PERRL
   Neck: Trach in place
   Lungs: Coarse BS bilaterally
   Heart: s1s2 irregular
   Abd: softer than prior, still TTP
   Ext: Feet warm, less mottled than yesterday
   Labs / Radiology
   300 K/uL
   8.3 g/dL
   117 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.0 mEq/L
   19 mg/dL
   100 mEq/L
   139 mEq/L
   25.0 %
   28.2 K/uL
        [image002.jpg]
                            [**2188-11-14**]  06:11 AM
                            [**2188-11-14**]  11:23 AM
                            [**2188-11-14**]  11:29 AM
                            [**2188-11-14**]  11:56 AM
                            [**2188-11-14**]  03:01 PM
                            [**2188-11-14**]  05:43 PM
                            [**2188-11-14**]  06:23 PM
                            [**2188-11-15**]  12:00 AM
                            [**2188-11-15**]  12:20 AM
                            [**2188-11-15**]  06:01 AM
   WBC
   28.2
   Hct
   25.0
   Plt
   300
   Cr
   1.1
   0.9
   TCO2
   34
   33
   32
   32
   31
   31
   Glucose
   141
   133
   117
   Other labs: PT / PTT / INR:13.4/34.3/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:14/21, Alk Phos / T Bili:89/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:94.8 %, Band:0.0 %,
   Lymph:3.0 %, Mono:1.8 %, Eos:0.2 %, D-dimer:3764 ng/mL, Fibrinogen:604
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:261 IU/L, Ca++:9.2
   mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Microbiology: [**11-13**] Sputum gram - rods
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   Septic Shock: Corynbacterium dipthroid in blood, pseudomonas in sputum.
   Still on levophed. GI source likely given mesenteric ischemia. WBC
   count up 27 today.
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]) day 2, continue
   gentamycin (day 1 [**11-4**]): day 12
   - Pseudomonas not as sensitive to zosyn ([**Date range (1) 5933**])
   - Diptheria Bacteremia: blood culture from [**11-4**] , vancomycin (day 1:
   [**11-4**]) day 11
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk.
   - treat for 2 week course for Bacteremia and VAP
   - f/u surveillence cultures
   - ID consult appreciated
   - as wean levophed tolerated, use as needed to take off volume with
   CVVH
   - s/p stress dose steroids ([**Date range (1) 5922**])
   - gave 1 unit PRBCS [**11-14**], increasing pressor requirement and mottled
   feet.
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan yesterday. Was making stool, but
   getting less and having a lot of output from Gtube. Possibly
   obstructed, or still has ileus.
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
   COPD/Respiratory: On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD.
   Currently stable AC 550/20/5/50%
   - SBT today
   - albuterol, atrovent inhalers.
   ESRD: CVVH catheter replaced10/6, back on CVVH.
   - Patient 2L negative from yesterday, will try to take fluid off today
   given significant edema as long as blood pressure tolerates.
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - .125mg IV qOD
   - check levels daily
   Anemia: Hct baseline low 30s, transused yesterday.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   Upper GI bleed: resolved. Admitted with coffee ground emesis. Pulled
   out foley in peg tract [**11-10**]. No obvious active bleeding.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   FEN: TPN
   Access: Right femoral line and new R radial a-line, L tunneled HD
   line.
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-14**] 06:03 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate): chemical code only, no shocks,
   no compressions
   Disposition:

2188-11-15 09:54:00 Physician Attending Progress Note
Chief Complaint: 72 yr woman with ESRD from HBP. Vent dependent in
   [**2187**], weaned in [**1-11**]. Multiple GI Bleeds. Now with sepsis. In ICU 11
   days, on pressors
   Mesenteric ischemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Unchanged from prior notes
   24 Hour Events:
   PEEP down to 5
   Negative DIC labs, Levophed up and down
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2188-11-13**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-14**] 09:00 AM
   Gentamicin - [**2188-11-14**] 11:00 PM
   Meropenem - [**2188-11-15**] 04:00 AM
   Metronidazole - [**2188-11-15**] 04:00 AM
   Vancomycin - [**2188-11-15**] 08:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-15**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-15**] 08:00 AM
   Morphine Sulfate - [**2188-11-15**] 08:00 AM
   Other medications:
   levothyroxine, RISS, atrovent, paraclacitriol, epo, digoxin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-15**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 110 (65 - 116) bpm
   BP: 50/42(46) {50/39(45) - 83/62(71)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.9 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  8,208 mL
                                                                  3,174 mL
   PO:
             TF:
   IVF:
                                                                  6,433 mL
                                                                  2,560 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                 10,559 mL
                                                                  3,195 mL
   Urine:
   NG:
                                                                    850 mL
                                                                    100 mL
   Stool:
                                                                     25 mL
   Drains:
   Balance:
                                                                 -2,351 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.39/49/77/26/3
   Ve: 13.5 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Tender: hbut diminished from admit
   Extremities: Right: 4+, Left: 4+, mottled, cool, necrotic toes
   bilaterally
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Decreased
   Labs / Radiology
   9.6 g/dL
   314 K/uL
   89 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.4 mEq/L
   17 mg/dL
   101 mEq/L
   140 mEq/L
   28.5 %
   27.4 K/uL
        [image002.jpg]
                            [**2188-11-14**]  11:23 AM
                            [**2188-11-14**]  11:29 AM
                            [**2188-11-14**]  11:56 AM
                            [**2188-11-14**]  03:01 PM
                            [**2188-11-14**]  05:43 PM
                            [**2188-11-14**]  06:23 PM
                            [**2188-11-15**]  12:00 AM
                            [**2188-11-15**]  12:20 AM
                            [**2188-11-15**]  05:44 AM
                            [**2188-11-15**]  06:01 AM
   WBC
   28.2
   27.4
   Hct
   25.0
   28.5
   Plt
   300
   314
   Cr
   1.1
   0.9
   1.0
   TCO2
   33
   32
   32
   31
   31
   Glucose
   141
   133
   117
   89
   Other labs: PT / PTT / INR:13.4/34.3/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:[**2-3**], Alk Phos / T Bili:84/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:92.7 %, Band:0.0 %,
   Lymph:3.7 %, Mono:2.1 %, Eos:1.3 %, D-dimer:3764 ng/mL, Fibrinogen:604
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.8 g/dL, LDH:432 IU/L, Ca++:9.8
   mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: Unchanged, small bilateral effusions
   Assessment and Plan
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   Septic Shock: Corynbacterium dipthroid in blood, pseudomonas in sputum.
   Still on levophed. GI source likely given mesenteric ischemia. WBC
   count up 27 today.
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]) day 2, continue
   gentamycin (day 1 [**11-4**]): day 12
   - Not as sensitive to zosyn ([**Date range (1) 5933**])
   - Diptheria Bacteremia: blood culture from [**11-4**] , vancomycin (day 1:
   [**11-4**]) day 11
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk.
   - treat for 2 week course for Bacteremia and VAP
   - f/u surveillence cultures
   - ID consult appreciated
   - wean levophed as tolerated, use as needed to take off volume with
   CVVH
   - s/p stress dose steroids ([**Date range (1) 5922**])
   - gave 1 unit PRBCS [**11-14**], increasing pressor requirement and mottled
   feet.
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan yesterday. Now making STOOL
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
   COPD/Respiratory: On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD.
   Currently stable AC 550/20/5/50%
   - SBT today
   - albuterol, atrovent inhalers.
   ESRD: CVVH catheter replaced10/6, back on CVVH.
   - Patient 2L negative from yesterday, will try to take fluid off today
   given significant edema as long as blood pressure tolerates.
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Digoxin .125mg IV qOD
   - check levels daily
   Anemia: Hct baseline low 30s, now is 36, likely hemoconcentrated. MCV
   >100. on thiamine folate at home.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   Upper GI bleed: resolved. Admitted with coffee ground emesis. Pulled
   out foley in peg tract [**11-10**]. No obvious active bleeding.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   Access: Right femoral line and new R radial a-line, L tunneled HD
   line.
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-14**] 06:03 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2188-11-16 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2188-11-15**] 06:32 PM
 MULTI LUMEN - STOP [**2188-11-15**] 09:29 PM
   - During positioning for KUB in afternoon, femoral line was dislodged.
   - New right femoral line placed with propofol for sedation
   - Elevated PT, PTT, [**Name (NI) 5945**]> concern for developing DIC, checked DIC
   labs.
   - RSBI was 70, SBT with labored breathing, did well on PS for about 4
   hours, then switched to AC when line replaced
   - Pharmacy: Consider changing gentamicin to tobramicin if patient
   demonstrates further decline
   - Renal: Increased epo, continued UF
   - Appeared to be in sinus on telemetry
   - Levophed initially up after line removed, then tapererd down from
   0.30 --> 0.26 mcg/kg/min
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-14**] 09:00 AM
   Vancomycin - [**2188-11-15**] 12:00 PM
   Gentamicin - [**2188-11-15**] 09:56 PM
   Meropenem - [**2188-11-16**] 03:57 AM
   Metronidazole - [**2188-11-16**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.26 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-15**] 04:00 PM
   Pantoprazole (Protonix) - [**2188-11-15**] 08:00 PM
   Morphine Sulfate - [**2188-11-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-16**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 89 (76 - 110) bpm
   BP: 69/53(61) {42/34(38) - 71/56(63)} mmHg
   RR: 26 (11 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.9 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  6,705 mL
                                                                  2,375 mL
   PO:
             TF:
   IVF:
                                                                  5,387 mL
                                                                  1,940 mL
   Blood products:
   Total out:
                                                                  6,009 mL
                                                                  1,643 mL
   Urine:
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                    732 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 540 (480 - 540) mL
   PS : 16 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.35/46/78.[**Numeric Identifier 244**]/24/0
   Ve: 13.8 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Gen: Grimaces with exam, will not follow commands
   HEENT: PERRL
   Neck: trach in place
   Lungs: Coarse BS bilaterally
   Heart: s1s2 RRR
   Abd: No clear BS; firm abd; tender to palpation
   Ext: feet appear less mottled today than prior
   Labs / Radiology
   268 K/uL
   8.9 g/dL
   145 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.6 mEq/L
   17 mg/dL
   104 mEq/L
   138 mEq/L
   27.2 %
   27.7 K/uL
        [image002.jpg]
                            [**2188-11-15**]  12:15 PM
                            [**2188-11-15**]  07:40 PM
                            [**2188-11-15**]  07:42 PM
                            [**2188-11-15**]  08:04 PM
                            [**2188-11-15**]  10:19 PM
                            [**2188-11-15**]  11:04 PM
                            [**2188-11-15**]  11:36 PM
                            [**2188-11-16**]  02:02 AM
                            [**2188-11-16**]  02:19 AM
                            [**2188-11-16**]  06:19 AM
   WBC
   30.1
   32.2
   27.7
   Hct
   26.2
   28.6
   27.2
   Plt
   266
   322
   268
   Cr
   1.0
   1.0
   TCO2
   27
   29
   28
   26
   25
   26
   Glucose
   89
   145
   Other labs: PT / PTT / INR:14.1/57.2/1.2, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:13/24, Alk Phos / T Bili:87/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:93.6 %, Band:0.0 %,
   Lymph:3.1 %, Mono:2.3 %, Eos:0.9 %, D-dimer:3353 ng/mL, Fibrinogen:641
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:230 IU/L, Ca++:9.0
   mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   MICRO:
   -[**11-14**] Cdiff: neg
   -[**11-14**] Blood cx: NGTD
   - [**11-14**] Sputum: GNR, GPC, GPR
   IMAGING:
   - [**11-16**] CXR: No free air, ? RML vs volume overload
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   Septic Shock: Corynbacterium dipthroid in blood, pseudomonas in sputum.
   Still on levophed. GI source likely given mesenteric ischemia on
   admission. WBC count up.
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]) day 2, continue
   gentamycin (day 1 [**11-4**]): day 12
   - Pseudomonas not as sensitive to zosyn ([**Date range (1) 5933**])
   - Diptheria Bacteremia: blood culture from [**11-4**] , vancomycin (day 1:
   [**11-4**]) day 13
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk.
   - treat for 2 week course for Bacteremia and VAP
   - f/u surveillence cultures
   - ID consult appreciated
   - as wean levophed tolerated, use as needed to take off volume with
   CVVH
   - s/p stress dose steroids ([**Date range (1) 5922**])
   - gave 1 unit PRBCS [**11-14**], increasing pressor requirement and mottled
   feet.
   - Continuing ALL abx for now as pt still in septic shock and not
   improving
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan yesterday. Was making stool, but
   getting less and having a lot of output from Gtube. Possibly
   obstructed, or still has ileus.
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
   COPD/Respiratory: On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD.
   Currently stable AC 550/20/5/50%
   - Defer SBT given pt in shock on pressors, continue on AC mode
   - albuterol, atrovent inhalers.
   ESRD: CVVH catheter replaced10/6, back on CVVH.
   - Patient 2L negative from yesterday, will try to take fluid off today
   given significant edema as long as blood pressure tolerates.
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Dig 0.125mg IV qOD
   - check levels daily
   Anemia: Hct baseline low 30s, transfused yesterday.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   Upper GI bleed: resolved. Admitted with coffee ground emesis. No
   obvious active bleeding.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   FEN: TPN
   Access: Right femoral line and R radial a-line, L tunneled HD line.
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-14**] 06:03 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2188-11-4**] 03:31 PM
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate): chemical code only, no shocks,
   no compressions
   Disposition:

2188-11-16 09:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2188-11-15**] 06:32 PM
   RSBI 70
   SBT - failed with RR in high 30's
   PS 16/5 - failed
   Back on AC
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-14**] 09:00 AM
   Gentamicin - [**2188-11-15**] 09:56 PM
   Meropenem - [**2188-11-16**] 03:57 AM
   Metronidazole - [**2188-11-16**] 04:00 AM
   Vancomycin - [**2188-11-16**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.26 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-16**] 08:00 AM
   Morphine Sulfate - [**2188-11-16**] 08:00 AM
   Pantoprazole (Protonix) - [**2188-11-16**] 08:36 AM
   Other medications:
   calcitriol, digoxin, epo,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-16**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 87 (76 - 104) bpm
   BP: 69/53(60) {42/34(38) - 71/56(63)} mmHg
   RR: 24 (11 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.9 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  6,705 mL
                                                                  3,032 mL
   PO:
             TF:
   IVF:
                                                                  5,387 mL
                                                                  2,502 mL
   Blood products:
   Total out:
                                                                  6,009 mL
                                                                  2,443 mL
   Urine:
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                    589 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 540 (480 - 540) mL
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 71
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.35/46/78.[**Numeric Identifier 244**]/24/0
   Ve: 13.8 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Absent), (Left DP pulse: Absent)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Bowel sounds present, Tender: , Obese
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   8.9 g/dL
   268 K/uL
   145 mg/dL
   1.0 mg/dL
   24 mEq/L
   4.6 mEq/L
   17 mg/dL
   104 mEq/L
   138 mEq/L
   27.2 %
   27.7 K/uL
        [image002.jpg]
                            [**2188-11-15**]  12:15 PM
                            [**2188-11-15**]  07:40 PM
                            [**2188-11-15**]  07:42 PM
                            [**2188-11-15**]  08:04 PM
                            [**2188-11-15**]  10:19 PM
                            [**2188-11-15**]  11:04 PM
                            [**2188-11-15**]  11:36 PM
                            [**2188-11-16**]  02:02 AM
                            [**2188-11-16**]  02:19 AM
                            [**2188-11-16**]  06:19 AM
   WBC
   30.1
   32.2
   27.7
   Hct
   26.2
   28.6
   27.2
   Plt
   266
   322
   268
   Cr
   1.0
   1.0
   TCO2
   27
   29
   28
   26
   25
   26
   Glucose
   89
   145
   Other labs: PT / PTT / INR:14.1/57.2/1.2, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:13/24, Alk Phos / T Bili:87/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:93.6 %, Band:0.0 %,
   Lymph:3.1 %, Mono:2.3 %, Eos:0.9 %, D-dimer:3353 ng/mL, Fibrinogen:641
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:230 IU/L, Ca++:9.0
   mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Microbiology: c diff neg on [**11-14**]
   BC pending from [**11-14**] - NG
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   Septic Shock: Corynbacterium dipthroid in blood, pseudomonas in sputum.
   Still on levophed. GI source likely given mesenteric ischemia on
   admission. WBC count up.
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]) day 2, continue
   gentamycin (day 1 [**11-4**]): day 12
   - Pseudomonas not as sensitive to zosyn ([**Date range (1) 5933**])
   - Diptheria Bacteremia: blood culture from [**11-4**] , vancomycin (day 1:
   [**11-4**]) day 13
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk.
   - treat for 2 week course for Bacteremia and VAP
   - f/u surveillence cultures
   - ID consult appreciated
   -  wean levophed tolerated- although making little progress, use as
   needed to take off volume with CVVH
   - s/p stress dose steroids ([**Date range (1) 5922**])
   - gave 1 unit PRBCS [**11-14**], increasing pressor requirement and mottled
   feet.
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following. Per [**Doctor First Name **] and GI, risks of heparin
   for mesenteric ischemia outway benefits in her case. CT a/p with air
   fluid levels, no pneumotosis no repeat scan yesterday. Was making
   stool, but getting less and having a lot of output from Gtube. Possibly
   obstructed, or still has ileus.
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
   COPD/Respiratory: On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD.
   Currently stable AC 550/20/5/50%
   - Hold on SBT today - failed strongly yesterday
   - albuterol, atrovent inhalers.
   ESRD: CVVH catheter replaced10/6, back on CVVH.
   - Patient 2L negative from yesterday, will try to take fluid off today
   given significant edema as long as blood pressure tolerates.
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Dig 0.125mg IV qOD
   - check levels daily
   Anemia: Hct baseline low 30s, transused yesterday.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   Upper GI bleed: resolved. Admitted with coffee ground emesis. Pulled
   out foley in peg tract [**11-10**]. No obvious active bleeding.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-11-15**] 09:30 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Multi Lumen - [**2188-11-15**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 45 minutes
   Patient is critically ill

2188-11-17 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Kept on AC Sunday (in shock, on pressors)
   - New groin line placed Saturday
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-11-14**] 09:00 AM
   Gentamicin - [**2188-11-16**] 10:01 PM
   Meropenem - [**2188-11-17**] 03:01 AM
   Metronidazole - [**2188-11-17**] 04:08 AM
   Vancomycin - [**2188-11-17**] 06:13 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Morphine Sulfate - [**2188-11-16**] 08:00 AM
   Pantoprazole (Protonix) - [**2188-11-16**] 08:36 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-17**] 12:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-17**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 91 (76 - 102) bpm
   BP: 46/39(42) {44/38(41) - 75/60(68)} mmHg
   RR: 22 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  7,744 mL
                                                                  2,344 mL
   PO:
             TF:
   IVF:
                                                                  6,339 mL
                                                                  1,902 mL
   Blood products:
   Total out:
                                                                  8,654 mL
                                                                  2,798 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                   -454 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.37/42/195/22/0
   Ve: 17.8 L/min
   PaO2 / FiO2: 390
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   9.5 g/dL
   107 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.7 mEq/L
   15 mg/dL
   106 mEq/L
   139 mEq/L
   29.1 %
   18.8 K/uL
        [image002.jpg]
                            [**2188-11-15**]  11:36 PM
                            [**2188-11-16**]  02:02 AM
                            [**2188-11-16**]  02:19 AM
                            [**2188-11-16**]  06:19 AM
                            [**2188-11-16**]  01:18 PM
                            [**2188-11-16**]  01:35 PM
                            [**2188-11-16**]  07:16 PM
                            [**2188-11-16**]  07:37 PM
                            [**2188-11-17**]  04:09 AM
                            [**2188-11-17**]  04:39 AM
   WBC
   27.7
   18.8
   Hct
   27.2
   26.8
   29.1
   Plt
   268
   280
   Cr
   1.0
   0.9
   0.9
   TCO2
   26
   25
   26
   26
   26
   25
   Glucose
   145
   113
   128
   107
   Other labs: PT / PTT / INR:13.9/36.3/1.2, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:13/25, Alk Phos / T Bili:96/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:93.6 %, Band:0.0 %,
   Lymph:3.1 %, Mono:2.3 %, Eos:0.9 %, D-dimer:3353 ng/mL, Fibrinogen:729
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:294 IU/L, Ca++:9.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: wbc trending down
   Microbiology: [**11-14**]: sputum growing pseudomonas.
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   Septic Shock: Corynbacterium dipthroid in blood, pseudomonas in sputum.
   Still on levophed. GI source likely given mesenteric ischemia on
   admission. WBC count up.
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]) day 4, continue
   gentamycin (day 1 [**11-4**]): day 14
   - Pseudomonas not as sensitive to zosyn ([**Date range (1) 5933**])
   - Diptheria Bacteremia: blood culture from [**11-4**] , vancomycin (day 1:
   [**11-4**]) day 14
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk.
   - treat for 2 week course for Bacteremia and VAP
   - f/u surveillence cultures
   - ID consult appreciated
   - as wean levophed tolerated, use as needed to take off volume with
   CVVH
   - s/p stress dose steroids ([**Date range (1) 5922**])
   - gave 1 unit PRBCS [**11-14**], increasing pressor requirement and mottled
   feet.
   - Continuing ALL abx for now as pt still in septic shock and not
   improving
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan yesterday. Was making stool, but
   getting less and having a lot of output from Gtube. Possibly
   obstructed, or still has ileus.
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
   COPD/Respiratory: On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD.
   Currently stable AC 550/20/10/50%
   - Defer SBT given pt in shock on pressors, continue on AC mode
   - albuterol, atrovent inhalers.
   ESRD: CVVH catheter replaced [**11-10**], back on CVVH.
   - Patient 2L negative from yesterday, will try to take fluid off today
   given significant edema as long as blood pressure tolerates.
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Dig 0.125mg IV qOD
   - check levels daily
   Anemia: Hct baseline low 30s, transfused yesterday.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   Upper GI bleed: resolved. Admitted with coffee ground emesis. No
   obvious active bleeding.
   - GI consult appreciated: will wait until stable to scope
   - IV PPI [**Hospital1 **]
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   Access: Right femoral line and R radial a-line, L tunneled HD line.
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-16**] 09:25 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Multi Lumen - [**2188-11-15**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate): chemical code only, no shocks no
   compressions
   Disposition:

2188-11-17 10:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Kept on AC - no further weaning progress
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2188-11-16**] 10:01 PM
   Meropenem - [**2188-11-17**] 03:01 AM
   Metronidazole - [**2188-11-17**] 04:08 AM
   Vancomycin - [**2188-11-17**] 06:13 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-17**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-17**] 08:00 AM
   Morphine Sulfate - [**2188-11-17**] 08:00 AM
   Other medications:
   levothyroxine, albuterol nebs, atrovent nebs, others unchanged from
   [**11-16**]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-17**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.7
   HR: 81 (76 - 102) bpm
   BP: 60/47(53) {44/38(41) - 75/60(68)} mmHg
   RR: 16 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  7,744 mL
                                                                  3,006 mL
   PO:
             TF:
   IVF:
                                                                  6,339 mL
                                                                  2,425 mL
   Blood products:
   Total out:
                                                                  8,654 mL
                                                                  3,517 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -910 mL
                                                                   -511 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.37/42/195/22/0
   Ve: 14.2 L/min
   PaO2 / FiO2: 390
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: , Obese
   Extremities: Right: 2+, Left: 2+, Necrotic Toes bilaterally
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Follows simple commands, Responds to: Noxious stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   280 K/uL
   107 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.7 mEq/L
   15 mg/dL
   106 mEq/L
   139 mEq/L
   29.1 %
   18.8 K/uL
        [image002.jpg]
                            [**2188-11-15**]  11:36 PM
                            [**2188-11-16**]  02:02 AM
                            [**2188-11-16**]  02:19 AM
                            [**2188-11-16**]  06:19 AM
                            [**2188-11-16**]  01:18 PM
                            [**2188-11-16**]  01:35 PM
                            [**2188-11-16**]  07:16 PM
                            [**2188-11-16**]  07:37 PM
                            [**2188-11-17**]  04:09 AM
                            [**2188-11-17**]  04:39 AM
   WBC
   27.7
   18.8
   Hct
   27.2
   26.8
   29.1
   Plt
   268
   280
   Cr
   1.0
   0.9
   0.9
   TCO2
   26
   25
   26
   26
   26
   25
   Glucose
   145
   113
   128
   107
   Other labs: PT / PTT / INR:13.9/36.3/1.2, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:13/25, Alk Phos / T Bili:96/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:93.6 %, Band:0.0 %,
   Lymph:3.1 %, Mono:2.3 %, Eos:0.9 %, D-dimer:3353 ng/mL, Fibrinogen:729
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:294 IU/L, Ca++:9.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: Improvement in L base, small bilateral effusions
   Microbiology: [**11-14**] Sputum + for pseudomonas
   Assessment and Plan
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
    Septic Shock: Corynbacterium dipthroid in blood, pseudomonas in
   sputum. Still on levophed. GI source likely given mesenteric ischemia
   on admission. WBC count up.
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]) day 2, continue
   gentamycin (day 1 [**11-4**]): day 12
   - Diptheria Bacteremia: blood culture from [**11-4**] , vancomycin (day 1:
   [**11-4**]) day 13
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk.
   - treat for 2 week course for Bacteremia and VAP
   - f/u surveillence cultures
   - wean levophed tolerated- although making little progress, use as
   needed to take off volume with CVVH
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following. Per [**Doctor First Name **] and GI, risks of heparin
   for mesenteric ischemia outway benefits in her case. CT a/p with air
   fluid levels, no pneumotosis no repeat scan yesterday.
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
   COPD/Respiratory: On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD.
   Currently stable AC 550/20/5/50%
    - albuterol, atrovent inhalers.
   ESRD: CVVH catheter replaced10/6, back on CVVH.
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Dig 0.125mg IV qOD
   - check levels daily
   Anemia: Hct baseline low 30s
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son.
   Upper GI bleed: resolved. Admitted with coffee ground emesis. Pulled
   out foley in peg tract [**11-10**]. No obvious active bleeding.
   - GI consult appreciated: will wait until stable to scope
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-11-16**] 09:25 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Multi Lumen - [**2188-11-15**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2188-11-18 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - levophed decreased from 0.2 to 0.1, but taking off 50cc/hour on cvvh
   (was waking of 150/hr)
   - discontinue vancomycin, got 2 weeks of it for diptheria in blood
   - Peep weaned from 10--> 8 and then 8--> 5. ABG on this:  7.38/38/90
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-11-17**] 06:13 AM
   Gentamicin - [**2188-11-17**] 10:45 PM
   Meropenem - [**2188-11-18**] 04:42 AM
   Metronidazole - [**2188-11-18**] 05:04 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-17**] 08:00 AM
   Morphine Sulfate - [**2188-11-17**] 12:04 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-18**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-18**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 79 (79 - 97) bpm
   BP: 38/31(34) {36/29(33) - 67/54(59)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  7,311 mL
                                                                  2,187 mL
   PO:
             TF:
   IVF:
                                                                  5,911 mL
                                                                  1,725 mL
   Blood products:
   Total out:
                                                                  9,017 mL
                                                                  2,576 mL
   Urine:
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,706 mL
                                                                   -389 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 13 cmH2O
   Plateau: 11 cmH2O
   SpO2: 99%
   ABG: 7.34/43/108/22/-2
   Ve: 16.6 L/min
   PaO2 / FiO2: 216
   Physical Examination
   Gen: Grimaces with exam, will not follow commands
   HEENT: PERRL
   Neck: trach in place
   Lungs: Coarse BS bilaterally
   Heart: s1s2 RRR
   Abd: No clear BS; firm abd; tender to palpation
   Ext: feet appear less mottled today than
   Labs / Radiology
   214 K/uL
   8.2 g/dL
   100 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.8 mEq/L
   18 mg/dL
   109 mEq/L
   141 mEq/L
   25.4 %
   14.2 K/uL
        [image002.jpg]
                            [**2188-11-17**]  04:09 AM
                            [**2188-11-17**]  04:39 AM
                            [**2188-11-17**]  11:24 AM
                            [**2188-11-17**]  11:43 AM
                            [**2188-11-17**]  06:38 PM
                            [**2188-11-17**]  06:59 PM
                            [**2188-11-18**]  12:19 AM
                            [**2188-11-18**]  12:29 AM
                            [**2188-11-18**]  05:48 AM
                            [**2188-11-18**]  05:59 AM
   WBC
   18.8
   18.4
   19.3
   14.2
   Hct
   29.1
   27.1
   25.8
   26.9
   25.4
   Plt
   280
   250
   249
   214
   Cr
   0.9
   0.9
   0.9
   1.0
   1.0
   TCO2
   25
   25
   23
   26
   24
   Glucose
   107
   118
   116
   117
   100
   Other labs: PT / PTT / INR:14.7/96.4/1.3, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:[**1-30**], Alk Phos / T Bili:107/0.3,
   Amylase / Lipase:93/85, Differential-Neuts:88.4 %, Band:0.0 %,
   Lymph:6.5 %, Mono:3.7 %, Eos:1.3 %, D-dimer:3353 ng/mL, Fibrinogen:729
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.7 g/dL, LDH:270 IU/L, Ca++:8.8
   mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Microbiology: no new culture data
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   Septic Shock: Corynbacterium dipthroid in blood, pseudomonas in sputum.
   Still on levophed. GI source likely given mesenteric ischemia on
   admission. WBC count up.
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]) day 5, continue
   gentamycin (day 1 [**11-4**]): day 15
 will continue until 14 day course of
   meropenem is completed
   - Pseudomonas not as sensitive to zosyn ([**Date range (1) 5933**])
   - Diptheria Bacteremia: blood culture from [**11-4**] , s/p  vancomycin (9/30
 [**11-17**])
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk.
   - treat for 2 week course for Bacteremia and VAP
   - f/u surveillence cultures
   - ID consult appreciated
   - as wean levophed tolerated, use as needed to take off volume with
   CVVH
   - s/p stress dose steroids ([**Date range (1) 5922**])
   - gave 1 unit PRBCS [**11-14**], increasing pressor requirement and mottled
   feet
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan yesterday. Was making stool, but
   getting less and having a lot of output from Gtube. Possibly
   obstructed, or still has ileus.
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
 to intermittent suction
   COPD/Respiratory: On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD.
   Currently stable AC 550/20/5/50%
   - Peep decreased to 5 from 10 yesterday. Will try SBT today.
   - albuterol, atrovent inhalers.
   ESRD: CVVH catheter replaced [**11-10**], back on CVVH.
   - Patient 1L negative from yesterday, will try to take fluid off today
   given significant edema as long as blood pressure tolerates.
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Dig 0.125mg IV qOD
   - check levels daily
   Anemia: Hct baseline low 30s, transfused yesterday.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   Upper GI bleed: likely from mesenteric ischemia, IV PPI [**Hospital1 **]
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   - fu repeat TST
   Access: Right femoral line and R radial a-line, L tunneled HD line.
   Check placement of iliac stents to see if she may be able to get
   femoral aline for more accurate blood pressure monitoring.
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-17**] 09:24 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Multi Lumen - [**2188-11-15**] 06:32 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate). no shocks no compressions,
   chemical code only
   Disposition:

2188-11-19 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2188-11-18**] 11:26 AM
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-11-17**] 06:13 AM
   Gentamicin - [**2188-11-18**] 10:10 PM
   Meropenem - [**2188-11-19**] 04:04 AM
   Metronidazole - [**2188-11-19**] 04:45 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-18**] 09:58 AM
   Morphine Sulfate - [**2188-11-18**] 09:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-19**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.4
   HR: 79 (79 - 115) bpm
   BP: 42/34(38) {30/24(28) - 64/47(55)} mmHg
   RR: 17 (13 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  6,683 mL
                                                                  2,223 mL
   PO:
             TF:
   IVF:
                                                                  5,258 mL
                                                                  1,799 mL
   Blood products:
   Total out:
                                                                  6,614 mL
                                                                  1,889 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     69 mL
                                                                    334 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 654 (461 - 654) mL
   RR (Set): 20
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 15 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 92%
   ABG: 7.39/45/112/26/2
   Ve: 11.7 L/min
   PaO2 / FiO2: 224
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   218 K/uL
   7.9 g/dL
   114 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.7 mEq/L
   18 mg/dL
   109 mEq/L
   143 mEq/L
   24.2 %
   12.5 K/uL
        [image002.jpg]
                            [**2188-11-18**]  05:48 AM
                            [**2188-11-18**]  05:59 AM
                            [**2188-11-18**]  01:02 PM
                            [**2188-11-18**]  01:12 PM
                            [**2188-11-18**]  06:23 PM
                            [**2188-11-18**]  06:30 PM
                            [**2188-11-19**]  01:00 AM
                            [**2188-11-19**]  01:28 AM
                            [**2188-11-19**]  04:58 AM
                            [**2188-11-19**]  05:46 AM
   WBC
   14.2
   18.3
   12.5
   Hct
   25.4
   25.1
   26.0
   24.2
   Plt
   [**Telephone/Fax (3) 6014**]
   Cr
   1.0
   1.1
   1.0
   1.1
   1.0
   TCO2
   24
   25
   23
   26
   28
   Glucose
   100
   99
   113
   111
   114
   Other labs: PT / PTT / INR:14.8/38.6/1.3, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:[**1-30**], Alk Phos / T Bili:107/0.3,
   Amylase / Lipase:93/85, Differential-Neuts:88.4 %, Band:0.0 %,
   Lymph:6.5 %, Mono:3.7 %, Eos:1.3 %, D-dimer:3353 ng/mL, Fibrinogen:729
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:270 IU/L, Ca++:9.0
   mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   Septic Shock: Corynbacterium dipthroid in blood, pseudomonas in sputum.
   Still on levophed. GI source likely given mesenteric ischemia on
   admission. WBC count up.
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]) day 5, continue
   gentamycin (day 1 [**11-4**]): day 15
 will continue until 14 day course of
   meropenem is completed
   - Pseudomonas not as sensitive to zosyn ([**Date range (1) 5933**])
   - Diptheria Bacteremia: blood culture from [**11-4**] , s/p  vancomycin (9/30
 [**11-17**])
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk.
   - treat for 2 week course for Bacteremia and VAP
   - f/u surveillence cultures
   - ID consult appreciated
   - as wean levophed tolerated, use as needed to take off volume with
   CVVH
   - s/p stress dose steroids ([**Date range (1) 5922**])
   - gave 1 unit PRBCS [**11-14**], increasing pressor requirement and mottled
   feet
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan yesterday. Was making stool, but
   getting less and having a lot of output from Gtube. Possibly
   obstructed, or still has ileus.
   - fluid recuscutation, broad spectrum abx
   - on TPN
   - morphine for pain control
   - daily KUB: no free air so far
   - GI replaced PEG
 to intermittent suction
   COPD/Respiratory: On AC for now. will wean off when mental status
   improves. oxygenating well. Has underlying COPD.
   Currently stable AC 550/20/5/50%
   - Peep decreased to 5 from 10 yesterday. Will try SBT today.
   - albuterol, atrovent inhalers.
   ESRD: CVVH catheter replaced [**11-10**], back on CVVH.
   - Patient 1L negative from yesterday, will try to take fluid off today
   given significant edema as long as blood pressure tolerates.
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Dig 0.125mg IV qOD
   - check levels daily
   Anemia: Hct baseline low 30s, transfused yesterday.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   Upper GI bleed: likely from mesenteric ischemia, IV PPI [**Hospital1 **]
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   - fu repeat TST
   Access: Right femoral line and R radial a-line, L tunneled HD line.
   Check placement of iliac stents to see if she may be able to get
   femoral aline for more accurate blood pressure monitoring.
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-18**] 09:18 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Multi Lumen - [**2188-11-15**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2188-11-20 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hypotension after initial Levophed wean from 0.2 to 0.18.  Required
   increase in Levophed dose and fluid bolus
   - CVVH turned off and patient being run even
   - Given Monostat for presumed vaginal yeast infection
   - SBT went well
   - R femoral line leaking TPN, RLE with upper thigh swelling.  TPN port
   stopped.
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2188-11-19**] 08:00 PM
   Meropenem - [**2188-11-19**] 08:43 PM
   Gentamicin - [**2188-11-19**] 10:01 PM
   Vancomycin - [**2188-11-20**] 06:03 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-19**] 08:00 AM
   Morphine Sulfate - [**2188-11-19**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-19**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-20**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 100 (75 - 110) bpm
   BP: 30/26(28) {30/26(28) - 67/52(59)} mmHg
   RR: 29 (12 - 33) insp/min
   SpO2: 71%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  7,733 mL
                                                                  1,892 mL
   PO:
             TF:
   IVF:
                                                                  6,332 mL
                                                                  1,478 mL
   Blood products:
   Total out:
                                                                  7,766 mL
                                                                  1,066 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -33 mL
                                                                    826 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (424 - 780) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 12 cmH2O
   SpO2: 71%
   ABG: 7.34/51/85.[**Numeric Identifier 128**]/25/0
   Ve: 16.3 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   7.7 g/dL
   112 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.8 mEq/L
   17 mg/dL
   107 mEq/L
   141 mEq/L
   24.2 %
   13.6 K/uL
        [image002.jpg]
                            [**2188-11-19**]  04:58 AM
                            [**2188-11-19**]  05:46 AM
                            [**2188-11-19**]  11:26 AM
                            [**2188-11-19**]  01:37 PM
                            [**2188-11-19**]  04:18 PM
                            [**2188-11-19**]  06:07 PM
                            [**2188-11-19**]  06:22 PM
                            [**2188-11-19**]  11:52 PM
                            [**2188-11-20**]  12:03 AM
                            [**2188-11-20**]  06:50 AM
   WBC
   12.5
   13.6
   Hct
   24.2
   24.2
   Plt
   218
   208
   Cr
   1.0
   1.0
   0.9
   TCO2
   28
   30
   28
   28
   30
   29
   Glucose
   114
   127
   118
   112
   Other labs: PT / PTT / INR:14.6/46.3/1.3, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:[**1-30**], Alk Phos / T Bili:107/0.3,
   Amylase / Lipase:93/85, Differential-Neuts:85.2 %, Band:0.0 %,
   Lymph:7.9 %, Mono:5.4 %, Eos:1.4 %, D-dimer:3353 ng/mL, Fibrinogen:729
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:270 IU/L, Ca++:8.9
   mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   Septic Shock: s/p Vanc for Corynbacterium Bacteremia, and now on
   Meropenem Pseudomonas VAP.  Still requiring levophed for MAP > 65/
   - Continue gentamycin (day 1 [**11-4**]): day 15
 will continue until 14 day
   course of meropenem is complete
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**])
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk
   - weaning attempts of Levophed have been unsuccessful
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan. Was making stool, but getting
   less and having a lot of output from Gtube without interval change on
   KUB from [**2188-11-19**].
   - fluid recuscutation
   - Continue broad spectrum abx
   - TPN being held as port may be clogged
   - morphine for pain control
   - GI replaced PEG
 to intermittent suction
   COPD/Respiratory:  Did well with SBT yesterday.  Currently on PSV 5/5.
   Will attempt another SBT today.
   - Continue inhalers.
   ESRD: CVVH catheter replaced [**11-10**], back on CVVH.  Patient will require
   replacement of HD catheter, either on [**11-20**] or [**11-21**]
   - Euvolemic from yesterday, maintain euvolemia
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming and worse with hypotension
   - minimize use of levophed, lowers blood flow to LE
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - As per Pharmacy, continue Dig 0.125mg IV qOD
   - check levels daily
   Anemia: Hct baseline low 30s, transfused yesterday.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   Upper GI bleed: likely from mesenteric ischemia, IV PPI [**Hospital1 **]
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   - repeat TST on [**11-17**] WNL
   Access: Right femoral line and R radial a-line, L tunneled HD line.
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-19**] 09:17 PM 58.[**Telephone/Fax (5) 5888**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Multi Lumen - [**2188-11-15**] 06:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2188-11-21 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2188-11-20**] 11:00 AM
   Overall, she has had increasing requirements for pressors,and requires
   max dose of levophed. Vasopressin added today
   Placed new left femoral line yesterday.
   Problem with CVVH line required stopping of CVVH yesterday, K+ rising.
   This am before rounds gave insulin + D50 for K of 6.4
   Failed SBT yesterday.
   Received IV fluconazole for yeast vaginitis.
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-11-20**] 06:03 AM
   Fluconazole - [**2188-11-20**] 04:31 PM
   Gentamicin - [**2188-11-20**] 09:00 PM
   Meropenem - [**2188-11-21**] 03:56 AM
   Metronidazole - [**2188-11-21**] 03:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-20**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-21**] 12:00 AM
   Morphine Sulfate - [**2188-11-21**] 03:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-21**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 95 (83 - 102) bpm
   BP: 98/37(72) {70/29(40) - 109/53(72)} mmHg
   RR: 30 (20 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  3,005 mL
                                                                    431 mL
   PO:
             TF:
   IVF:
                                                                  2,650 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  1,252 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  1,753 mL
                                                                    431 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 477 (357 - 486) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.39/43/124/23/1
   Ve: 13.2 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: No(t) Thin
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: )
   Abdominal: No(t) Non-tender, Distended, Tender: diffuse
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225 K/uL
   7.0 g/dL
   85 mg/dL
   1.8 mg/dL
   23 mEq/L
   6.2 mEq/L
   29 mg/dL
   103 mEq/L
   138 mEq/L
   21.0 %
   17.2 K/uL
        [image002.jpg]
                            [**2188-11-19**]  01:37 PM
                            [**2188-11-19**]  04:18 PM
                            [**2188-11-19**]  06:07 PM
                            [**2188-11-19**]  06:22 PM
                            [**2188-11-19**]  11:52 PM
                            [**2188-11-20**]  12:03 AM
                            [**2188-11-20**]  06:34 AM
                            [**2188-11-20**]  06:50 AM
                            [**2188-11-20**]  11:46 PM
                            [**2188-11-21**]  03:37 AM
   WBC
   13.6
   15.7
   17.2
   Hct
   24.2
   23.3
   21.0
   Plt
   [**Telephone/Fax (3) 6043**]
   Cr
   1.0
   0.9
   1.0
   1.8
   TCO2
   28
   28
   30
   29
   27
   Glucose
   127
   118
   112
   59
   85
   Other labs: PT / PTT / INR:15.3/42.9/1.4, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:[**1-30**], Alk Phos / T Bili:107/0.3,
   Amylase / Lipase:93/85, Differential-Neuts:85.2 %, Band:0.0 %,
   Lymph:7.9 %, Mono:5.4 %, Eos:1.4 %, D-dimer:3353 ng/mL, Fibrinogen:729
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL, LDH:270 IU/L, Ca++:9.3
   mg/dL, Mg++:2.2 mg/dL, PO4:5.6 mg/dL
   Imaging: CXR: In comparison with the study of [**11-20**], there is little
   overall change. Right perihilar opacification and indistinctness of the
   hemidiaphragm persists. Continuing left retrocardiac opacification with
   small pleural
   effusion. Small right effusion is unchanged
   Yesterday:
   Tracheostomy tube terminates within the proximal trachea at the level
   of the head of the clavicles, not substantially changed since recent
   study. No pneumomediastinum or pneumothorax is evident. Compared to
   prior study, lung volumes are slightly increased, and there is
   improving aeration at the right lung base as well as decrease in right
   perihilar opacity. However, apparent worsening of left retrocardiac
   opacity is present with adjacent small left pleural effusion. Small
   right pleural effusion is unchanged.
   Microbiology: [**11-20**] - Line Tip PENDING
   [**2188-11-20**]  BLOOD CULTURE  Pending
   [**2188-11-20**]  BLOOD CULTURE  Pending
   [**2188-11-14**]  STOOL  Final
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
                                                                      over
    Septic Shock:
   Appearing distributive shock. She is s/p Vanc for Corynbacterium
   Bacteremia, and now on Meropenem Pseudomonas VAP.
   Sources include VAP vs. line infection vs. abdominal.
   - add vancomycin today back to regimen
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]), Gent for 14 day
   planned course
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk
   - weaning attempts of Levophed have been unsuccessful, and we have
   added vasopressin today as levophed maxed. Also bolued 250cc x2 and
   given 2u pRBC
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan. Was making stool, but getting
   less and having a lot of output from Gtube without interval change on
   KUB from [**2188-11-19**].
   - continue recuscutation with volume/blood
   - Continue broad spectrum abx,  TPN, morphine for pain control
   COPD/Respiratory:  Did well with SBT yesterday.  Currently on PSV 5/5.
   Will attempt another SBT today.
   - Continue inhalers.
   - follow ABGs, may need vent adjustments
   ESRD: CVVH catheter replaced [**11-10**], back on CVVH, but problem with line
   yesterday.
   - Hyperkalemia today give D50 + insulin 10 units IV and reinstate CVVH
   after return from line check in IR
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming and worse with hypotension
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - As per Pharmacy, reduced digoxin dose
   - check levels tomorrow
   Anemia: Hct baseline low 30s, transfused today.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   Upper GI bleed: likely from mesenteric ischemia, IV PPI [**Hospital1 **]
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   - repeat TST on [**11-17**] WNL
   Access: Right femoral line [**11-20**] and R radial a-line, L tunneled HD
   line.
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition: TPN
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2188-11-10**] 05:29 PM
   Arterial Line - [**2188-11-12**] 01:01 PM
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU level of care

2188-11-22 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2188-11-21**] 08:30 AM
   for elevated k (6.4)
 DIALYSIS CATHETER - STOP [**2188-11-21**] 11:00 AM
 DIALYSIS CATHETER - START [**2188-11-21**] 11:30 AM
   placed in IR.  Same site as previous HD line.
 BLOOD CULTURED - At [**2188-11-21**] 01:00 PM
   from Lfem TLC.
 BLOOD CULTURED - At [**2188-11-21**] 03:00 PM
   from HD line
 ARTERIAL LINE - STOP [**2188-11-22**] 01:52 AM
   ===========
   - Having issues still with her vascular access; IR verified line this
   am, but access port not drawing back
   - Art line failed and removed
   - Hyperkalemic yest am, given insulin/D50 and CVVH reinstated
   - Changed back to assist control
   - HCT fell, transfused 2u pRBC with bump after 2nd unit.
   - Recultued, 4+ GNR in sputum (on tx for pseudomonas)
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-11-21**] 01:00 PM
   Fluconazole - [**2188-11-21**] 04:00 PM
   Gentamicin - [**2188-11-21**] 08:21 PM
   Meropenem - [**2188-11-22**] 04:02 AM
   Metronidazole - [**2188-11-22**] 04:02 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   KCl (CRRT) - 1 mEq./hour
   Norepinephrine - 0.35 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-21**] 08:00 AM
   Morphine Sulfate - [**2188-11-21**] 08:00 AM
   Insulin - Regular - [**2188-11-21**] 09:00 AM
   Dextrose 50% - [**2188-11-21**] 11:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-22**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 77 (68 - 99) bpm
   BP: 110/40(58) {82/31(47) - 140/102(108)} mmHg
   RR: 9 (9 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  6,579 mL
                                                                  2,573 mL
   PO:
             TF:
   IVF:
                                                                  5,480 mL
                                                                  2,102 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                  3,362 mL
                                                                  1,712 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,217 mL
                                                                    861 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 584 (584 - 584) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.33/43/71/23/-3
   Ve: 12.5 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   9.2 g/dL
   232 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.5 mEq/L
   23 mg/dL
   107 mEq/L
   140 mEq/L
   27.5 %
   11.6 K/uL
        [image002.jpg]
                            [**2188-11-20**]  06:50 AM
                            [**2188-11-20**]  11:46 PM
                            [**2188-11-21**]  03:37 AM
                            [**2188-11-21**]  11:16 AM
                            [**2188-11-21**]  11:30 AM
                            [**2188-11-21**]  02:48 PM
                            [**2188-11-21**]  05:46 PM
                            [**2188-11-21**]  10:07 PM
                            [**2188-11-22**]  12:24 AM
                            [**2188-11-22**]  05:59 AM
   WBC
   17.2
   11.6
   Hct
   21.0
   20.8
   28.1
   27.5
   Plt
   225
   152
   Cr
   1.8
   2.0
   1.4
   TCO2
   29
   27
   24
   24
   Glucose
   85
   41
   144
   252
   232
   Other labs: PT / PTT / INR:15.0/37.9/1.3, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:35/32, Alk Phos / T Bili:129/0.5,
   Amylase / Lipase:93/85, Differential-Neuts:79.8 %, Band:0.0 %,
   Lymph:9.8 %, Mono:10.0 %, Eos:0.3 %, D-dimer:3353 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL, LDH:249 IU/L, Ca++:9.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
                                                                      over
    Septic Shock:
   Appearing distributive shock. She is s/p Vanc for Corynbacterium
   Bacteremia, and on Meropenem for Pseudomonas VAP.
   Sources include VAP vs. line infection vs. abdominal.
   - add PO vancomycin today for empiric Cdiff coverage
   - vanc also to treat possible line infections
   - Cultures pending from a-line and Hd line
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]), Gent for 14 day
   planned course
   - C. diff: PO vanc and IV Flagyl for C diff, negative x2, but very high
   risk
   - weaning attempts of Levophed have been unsuccessful, and we have
   added vasopressin today as levophed maxed. Also bolued 250cc x2 and
   given 2u pRBC.  Will attempt to wean levophed with Vasopressin on
   board.
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis no repeat scan. Was making stool, but getting
   less and having a lot of output from Gtube without interval change on
   KUB from [**2188-11-19**].
   - continue recuscutation with volume/blood
   - Continue broad spectrum abx,  TPN, morphine for pain control
   COPD/Respiratory:  has done well on PSV over the past couple days but
   was put back on CMV yesterday secondary to respiratory acidosis
   - Continue inhalers.
   - follow ABGs, may need vent adjustments
   ESRD: CVVH catheter replaced [**11-10**], back on CVVH, but problem with line
   yesterday.
   -  Getting CVVH this am.
   - Team continue to trouble shoot with the HD line as needed
   PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming and worse with hypotension
   Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Continue Digoxin dosing
   - check levels daily
   Anemia: Hct baseline low 30s, transfused today.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   Upper GI bleed: likely from mesenteric ischemia, IV PPI [**Hospital1 **]
   Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   - repeat TST on [**11-17**] WNL
   Access: Right femoral line [**11-20**] and R radial a-line, L tunneled HD
   line.
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
   ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-21**] 06:30 PM 58.[**Telephone/Fax (5) 6062**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2188-11-22 07:58:00 Physician Attending Progress Note
Chief Complaint:
   24 Hour Events: left tunnled IJ changed on Friday by IR still with
   difficulty drawing back.  Right femoral Art line removed.  Hyper K 6
   given insulin and d50.  Vent from PS to AC.  s/p 2 units PRBC.
   Vasopressin added yesterday.
   Gram negative rods in sputum.
 EKG - At [**2188-11-21**] 08:30 AM
   for elevated k (6.4)
 DIALYSIS CATHETER - STOP [**2188-11-21**] 11:00 AM
 DIALYSIS CATHETER - START [**2188-11-21**] 11:30 AM
   placed in IR.  Same site as previous HD line.
 BLOOD CULTURED - At [**2188-11-21**] 01:00 PM
   from Lfem TLC.
 BLOOD CULTURED - At [**2188-11-21**] 03:00 PM
   from HD line
 ARTERIAL LINE - STOP [**2188-11-22**] 01:52 AM
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-11-21**] 01:00 PM
   Fluconazole - [**2188-11-21**] 04:00 PM
   Gentamicin - [**2188-11-21**] 08:21 PM
   Meropenem - [**2188-11-22**] 04:02 AM
   Metronidazole - [**2188-11-22**] 04:02 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   KCl (CRRT) - 2 mEq./hour
   Norepinephrine - 0.26 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-21**] 08:00 AM
   Morphine Sulfate - [**2188-11-21**] 08:00 AM
   Insulin - Regular - [**2188-11-21**] 09:00 AM
   Dextrose 50% - [**2188-11-21**] 11:21 AM
   Other medications:
   Hep Sq
   Levothyroxine
   Protonix q12
   Atrovent
   Pericalcitol
   Epogen
   Morphine [**2-6**] q4hr
   Dig .0625 qod
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-22**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.5
   HR: 77 (68 - 99) bpm
   BP: 110/40(58) {82/31(47) - 140/102(108)} mmHg
   RR: 9 (9 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  6,579 mL
                                                                  2,737 mL
   PO:
             TF:
   IVF:
                                                                  5,480 mL
                                                                  2,241 mL
   Blood products:
                                                                    558 mL
   Total out:
                                                                  3,362 mL
                                                                  1,712 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,217 mL
                                                                  1,025 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 584 (584 - 584) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 36
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.33/43/71/23/-3
   Ve: 12.5 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Gen: trach, total body anasarca
   HEENT:would not open eyes
   Heart:RRR s1s2
   Lungs:coarse BS anterior
   Abd:+BS, tender and distended
   Ext:digital ischemia, total body edema
   Labs / Radiology: Line trach in place, RLL small effusion and perihilar
   infiltrate with retrocardiac opacity unchanged from prior
   9.2 g/dL
   152 K/uL
   232 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.5 mEq/L
   23 mg/dL
   107 mEq/L
   140 mEq/L
   27.5 %
   11.6 K/uL
        [image002.jpg]
                            [**2188-11-20**]  06:50 AM
                            [**2188-11-20**]  11:46 PM
                            [**2188-11-21**]  03:37 AM
                            [**2188-11-21**]  11:16 AM
                            [**2188-11-21**]  11:30 AM
                            [**2188-11-21**]  02:48 PM
                            [**2188-11-21**]  05:46 PM
                            [**2188-11-21**]  10:07 PM
                            [**2188-11-22**]  12:24 AM
                            [**2188-11-22**]  05:59 AM
   WBC
   17.2
   11.6
   Hct
   21.0
   20.8
   28.1
   27.5
   Plt
   225
   152
   Cr
   1.8
   2.0
   1.4
   TCO2
   29
   27
   24
   24
   Glucose
   85
   41
   144
   252
   232
   Other labs: PT / PTT / INR:15.0/37.9/1.3, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:35/32, Alk Phos / T Bili:129/0.5,
   Amylase / Lipase:93/85, Differential-Neuts:79.8 %, Band:0.0 %,
   Lymph:9.8 %, Mono:10.0 %, Eos:0.3 %, D-dimer:3353 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL, LDH:249 IU/L, Ca++:9.5
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with their
   note, including the assessment and plan. I would emphasize and add the
   following points:
   72F with septic shock and respiratory failure in the setting of a
   complicated PMHx.  CT strongly suggested mesenteric ischemia but she
   improved both clinically and radiographically.   Septic shock
   presumably due to ischemic bowel w/ bacterial translocation though
   pneumonia and cardiogenic shock could be contributory as well.
   Septic Shock:
   Levophed maxed out and requiring IVF boluses for BP support.   Continue
   Vasopressin.  Neither is optimal given peripheral perfusion but may be
   necessary to sustain pt.  Several orgs isolated during admission
   (Corynbacterium dipthroid in blood,  Pseudomonas mult species in
   sputum) but no clear culprit of current decompensation.  Of note,
   current decomp began shortly after removal of dialysis line - septic
   thromophlebitis with showering emboli on line removal is possibility.
   WBC continued trend upward.  Pan cx
 cxr, urine if can obtain, bcx
   x2.  Cont broad spectrum abx coverage targeted on species/sensitivities
   of available cx.
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, subsequent show resolution.  Abd remains tender on exam.  [**Doctor First Name **]
   following.
   COPD/Respiratory:  cont require sig mech vent support.  More tachypnea
   today.
   ESRD: CVVH restarted after new line placed.  Fluid removal likely
   limited given borderline BP.
   PVD: poorly perfused periphery
 sig worsening with systemic
   hypotension. Levophed not optimal for periph perfusion but have been
   forced to use it.  Using vasopressin to reduce need to levophed.
   Atrial Fibrillation: On digoxin
   Anemia: Hct stable s/p transfusion
   Loss presumed sec mesenteric ischemia
   Hypothyroidism: on levothyoxine
   FEN: TPN
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-11-21**] 06:30 PM 58.[**Telephone/Fax (5) 6062**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2188-11-23 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.       Decreased levophed to 0.24 while on Vasopressin
   2.       7pm Gent trough: 2.0.  not redosed
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2188-11-21**] 04:00 PM
   Vancomycin - [**2188-11-22**] 08:03 AM
   Meropenem - [**2188-11-23**] 04:00 AM
   Metronidazole - [**2188-11-23**] 04:00 AM
   Gentamicin - [**2188-11-23**] 05:02 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2188-11-22**] 04:00 PM
   Pantoprazole (Protonix) - [**2188-11-22**] 07:44 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-22**] 11:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-23**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 83 (71 - 87) bpm
   BP: 112/50(57) {85/27(44) - 123/61(72)} mmHg
   RR: 21 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
    CO/CI (Fick): (3.3 L/min) / (1.9 L/min/m2)
   Mixed Venous O2% Sat: 46 - 46
   Total In:
                                                                  9,112 mL
                                                                  2,816 mL
   PO:
   TF:
   IVF:
                                                                  7,544 mL
                                                                  2,393 mL
   Blood products:
   Total out:
                                                                  7,338 mL
                                                                  2,944 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,774 mL
                                                                   -128 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 13.8 L/min
   Physical Examination
   Gen: awake, alert, NAD
   Cardio: irregularly irregular, tachycardic
   Pulm: rhonchi b/l
   GI: RLQ tenderness, abd soft.
   Ext: toes autoamputating bilaterally, skin mottled.
   Labs / Radiology
   118 K/uL
   9.2 g/dL
   275 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.0 mEq/L
   18 mg/dL
   105 mEq/L
   139 mEq/L
   27.6 %
   9.8 K/uL
        [image002.jpg]
                            [**2188-11-21**]  11:30 AM
                            [**2188-11-21**]  02:48 PM
                            [**2188-11-21**]  05:46 PM
                            [**2188-11-21**]  10:07 PM
                            [**2188-11-22**]  12:24 AM
                            [**2188-11-22**]  05:59 AM
                            [**2188-11-22**]  11:35 AM
                            [**2188-11-22**]  06:12 PM
                            [**2188-11-22**]  11:30 PM
                            [**2188-11-23**]  06:11 AM
   WBC
   11.6
   11.9
   9.8
   Hct
   20.8
   28.1
   27.5
   26.7
   27.6
   Plt
   152
   141
   118
   Cr
   1.4
   1.2
   1.1
   TCO2
   24
   24
   Glucose
   144
   252
   232
   159
   136
   275
   Other labs: PT / PTT / INR:13.8/39.1/1.2, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:35/32, Alk Phos / T Bili:129/0.5,
   Amylase / Lipase:93/85, Differential-Neuts:79.8 %, Band:0.0 %,
   Lymph:9.8 %, Mono:10.0 %, Eos:0.3 %, D-dimer:3353 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL, LDH:249 IU/L, Ca++:9.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   # Hypotension: appears to be septic shock from multiple infectious
   sources, including transient bacteremia from gut bacteria in setting of
   mesenteric ischemia, line infectuion, VAP.  She is s/p Vanc for
   Corynbacterium Bacteremia, and on Meropenem/ gentamicin for Pseudomonas
   VAP.  Also on Vanc PO and flagyl for empiric C.Diff.  New episode of
   hypotension [**11-21**] occurred after IR re-sited HD line.
   - C.Diff has been negative, discontinue oral vanc, flagyl.
   -Blood culture has been negative x48hrs, will discontinue vancomycin
   [**11-23**]
   - Cultures pending from a-line and Hd line
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]), Gent for 14 day
   planned course
   - weaning attempts of Levophed have been unsuccessful, and we have
   added vasopressin [**11-21**]  as levophed maxed. Also bolused 250cc x2 and
   given 2u pRBC [**11-21**].  Will attempt to wean levophed with Vasopressin on
   board.
   -check ecg for ischemia, low voltage.
   #Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis on repeat scan. Was making stool, but getting
   less and having a lot of output from Gtube without interval change on
   KUB from [**2188-11-19**].
   - continue recuscutation with volume/blood
   - Continue broad spectrum abx,  TPN, morphine for pain control
   #COPD/Respiratory:  has done well on PSV over the past couple days but
   was put back on CMV yesterday secondary to respiratory acidosis
   - Continue inhalers.
   - follow ABGs, may need vent adjustments
   #ESRD: CVVH catheter replaced [**11-10**], back on CVVH, but problem with line
   [**11-19**], IR replaced line [**11-21**].
   -  Getting CVVH this am.
   - Team continue to trouble shoot with the HD line as needed
   #PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming and worse with hypotension
   #Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Continue Digoxin dosing
   - check levels daily
   #Anemia: Hct baseline low 30s, transfused today.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   #Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   #Upper GI bleed: likely from mesenteric ischemia, IV PPI [**Hospital1 **]
   #Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   - repeat TST on [**11-17**] WNL
   #Access: Right femoral line [**11-20**], L tunneled HD line.
   Code status: no shocks no compressions, only chemical code. confirmed
   with Son
    ICU [**Name (NI) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-21**] 06:30 PM 58.[**Telephone/Fax (5) 6062**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:  pneumoboots
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), chemical resuscitation only.
   Disposition:
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-11-22**] 06:27 PM 58.[**Telephone/Fax (5) 6062**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2188-11-23 08:24:00 Physician Attending Progress Note
24 Hour Events: Levophed titrated down, gent trough was 2.0 dose was
   held.
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2188-11-21**] 2 doses
   Vancomycin - [**2188-11-22**] 08:03 AM
   Meropenem - [**2188-11-23**] 04:00 AM
   Metronidazole - [**2188-11-23**] 04:00 AM
   Gentamicin - [**2188-11-23**] 05:02 AM
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Vasopressin - 2.4 units/hour
   Other [**Year (4 digits) **] medications:
   Morphine Sulfate - [**2188-11-22**] 04:00 PM
   Pantoprazole (Protonix) - [**2188-11-22**] 07:44 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-22**] 11:28 PM
   Other medications:
   Hep Sq
   Chlorhex
   Levothyroxine
   RISS
   Protonix q12
   Atrovent
   Pericalcitol
   Epogen
   Morphine [**2-6**] q4hr
   Dig .0625 qod
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-23**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.6
C (96
   HR: 78 (72 - 87) bpm
   BP: 99/48(59) {85/27(44) - 123/61(72)} mmHg
   RR: 28 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
   CO/CI (Fick): (3.3 L/min) / (1.9 L/min/m2)
   Mixed Venous O2% Sat: 46 - 46
   Total In:
                                                                  9,112 mL
                                                                  3,276 mL
   PO:
   TF:
   IVF:
                                                                  7,544 mL
                                                                  2,786 mL
   Blood products:
   Total out:
                                                                  7,338 mL
                                                                  3,227 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,774 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   VBG 7.25/59
   Ve: 13.8 L/min
   Physical Examination
   Gen: trach, total body anasarca
   HEENT:would not open eyes, mild cyanosis
   Heart:RRR s1s2 no m/r/g
   Lungs:coarse BS anterior
   Abd:+BS, tender and distended
   Ext:digital ischemia, total body edema
   Labs / Radiology: Chest x-ray line and tubes in place.
   9.2 g/dL
   118 K/uL
   209 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.1 mEq/L
   17 mg/dL
   106 mEq/L
   140 mEq/L
   27.6 %
   9.8 K/uL
        [image002.jpg]
                            [**2188-11-21**]  11:30 AM
                            [**2188-11-21**]  02:48 PM
                            [**2188-11-21**]  05:46 PM
                            [**2188-11-21**]  10:07 PM
                            [**2188-11-22**]  12:24 AM
                            [**2188-11-22**]  05:59 AM
                            [**2188-11-22**]  11:35 AM
                            [**2188-11-22**]  06:12 PM
                            [**2188-11-22**]  11:30 PM
                            [**2188-11-23**]  06:11 AM
   WBC
   11.6
   11.9
   9.8
   Hct
   20.8
   28.1
   27.5
   26.7
   27.6
   Plt
   152
   141
   118
   Cr
   1.4
   1.2
   1.1
   1.1
   TCO2
   24
   24
   Glucose
   144
   252
   232
   159
   136
   275
   209
   Other labs: PT / PTT / INR:13.8/39.1/1.2, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:36/31, Alk Phos / T Bili:128/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:79.8 %, Band:0.0 %,
   Lymph:9.8 %, Mono:10.0 %, Eos:0.3 %, D-dimer:3353 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.2 g/dL, LDH:276 IU/L, Ca++:9.5
   mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the [**Year (4 digits) **]
   team for the key portions of the services provided. I agree with their
   note, including the assessment and plan. I would emphasize and add the
   following points:
   72F with septic shock and respiratory failure in the setting of a
   complicated PMHx.  CT strongly suggested mesenteric ischemia but she
   improved both clinically and radiographically.   Septic shock
   presumably due to ischemic bowel w/ bacterial translocation though
   pneumonia and cardiogenic shock could be contributory as well.
   Septic Shock:
   Levophed  requirement decreased with Vasopressin.  Several orgs
   isolated during admission (Corynbacterium dipthroid in blood,
   Pseudomonas mult species in sputum) but no clear culprit of current
   decompensation.  Of note, current decomp began shortly after removal of
   dialysis line - septic thromophlebitis with showering emboli on line
   removal is possibility.   WBC continued trend upward.  Pan cx
 cxr,
   urine if can obtain, bcx x2.  Cont broad spectrum abx coverage targeted
   on species/sensitivities of available cx.
   Antibiotics:
   [**Last Name (un) **]/gent for VAP day [**11-18**]
   Vanc IV started for empiric hyotension/fevers after line resite 48
   hours no cx.  Will consider D
c vanc.
   Flagyl for empiric C.diff consider d
c flagyl
   Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, subsequent show resolution.  Abd remains tender on exam.  Surgery
   following.
   COPD/Respiratory:  cont require significant mech vent support.
   Difficulty obtaining peripheral sats difficult access may need to
   consider IR for A-line placement.
   ESRD: CVVH restarted.  Fluid removal likely limited given borderline
   BP.
   PVD: poorly perfused periphery
 sig worsening with systemic
   hypotension. Levophed not optimal for periph perfusion but have been
   forced to use it.  Using vasopressin to reduce need to levophed.
   Atrial Fibrillation: On digoxin
   Anemia: Hct stable s/p transfusion
   Loss presumed sec mesenteric ischemia
   Hypothyroidism: on levothyoxine
   FEN: TPN
   Social: Son wishes to continue aggressive care and support.  She is
   clinically deteriorating would like to discuss prognosis with PCP.
   [**Name10 (NameIs) **] [**Name11 (NameIs) **]
   Nutrition:
   TPN w/ Lipids - [**2188-11-22**] 06:27 PM 58.[**Telephone/Fax (5) 6062**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : [**Year (4 digits) **]
   Total 36 critical care time

2188-11-24 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -continued on CVVH
   -Left CVVH line infected, already on IV vancomycin, sent for culture,
   put order in to IR
   -discontinued flagyl and PO vanc for empiric c.diff coverage
   -levophed weaned up to 3.5 overnight, back down to 2.5
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2188-11-21**] 04:00 PM
   Vancomycin - [**2188-11-23**] 12:14 PM
   Meropenem - [**2188-11-24**] 04:34 AM
   Metronidazole - [**2188-11-24**] 04:34 AM
   Gentamicin - [**2188-11-24**] 04:35 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.26 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-23**] 08:19 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-24**] 12:48 AM
   Morphine Sulfate - [**2188-11-24**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-24**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 87 (78 - 112) bpm
   BP: 102/55(67) {79/31(46) - 116/61(90)} mmHg
   RR: 13 (13 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  9,371 mL
                                                                  1,081 mL
   PO:
             TF:
   IVF:
                                                                  7,966 mL
                                                                    565 mL
   Blood products:
   Total out:
                                                                  7,328 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,043 mL
                                                                  1,081 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 13.9 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : coarse)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   102 K/uL
   8.5 g/dL
   133 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.1 mEq/L
   19 mg/dL
   105 mEq/L
   139 mEq/L
   25.0 %
   8.9 K/uL
        [image002.jpg]
                            [**2188-11-21**]  10:07 PM
                            [**2188-11-22**]  12:24 AM
                            [**2188-11-22**]  05:59 AM
                            [**2188-11-22**]  11:35 AM
                            [**2188-11-22**]  06:12 PM
                            [**2188-11-22**]  11:30 PM
                            [**2188-11-23**]  06:11 AM
                            [**2188-11-23**]  11:36 AM
                            [**2188-11-23**]  05:34 PM
                            [**2188-11-24**]  04:18 AM
   WBC
   11.6
   11.9
   9.8
   8.9
   Hct
   28.1
   27.5
   26.7
   27.6
   25.0
   Plt
   152
   141
   118
   102
   Cr
   1.4
   1.2
   1.1
   1.1
   0.9
   1.0
   1.1
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 6084**]36
   275
   209
   98
   101
   133
   Other labs: PT / PTT / INR:13.4/39.6/1.2, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:36/31, Alk Phos / T Bili:128/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:79.8 %, Band:0.0 %,
   Lymph:9.8 %, Mono:10.0 %, Eos:0.3 %, D-dimer:3353 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.2 g/dL, LDH:276 IU/L, Ca++:9.5
   mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Imaging: There is persistent left retrocardiac opacity and prominence
   of pulmonary vascular markings consistent with mild fluid overload.
   Overall, there is no interval
   change.
   Microbiology:  SPUTUM GRAM STAIN (Final [**2188-11-23**]):
   >25 PMNs and <10 epi
    4+  GRAM NEGATIVE ROD(S).
   [**2188-11-22**]  STOOL  Neg
   [**2188-11-21**]  SPUTUM  PSEUDOMONAS
         GENTAMICIN------------     4 S
         MEROPENEM-------------  =>16 R
         PIPERACILLIN/TAZO----- =>128 R
         TOBRAMYCIN------------   <=1 S
   [**2188-11-21**]  BLOOD CULTURE  Pending
   [**2188-11-21**]  BLOOD CULTURE  Pending
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   #Line Infection:
   - IV Vancomycin
   - Resite line if possible
    # Hypotension: appears to be septic shock from multiple infectious
   sources, including transient bacteremia from gut bacteria in setting of
   mesenteric ischemia, line infectuion, VAP.  She is s/p Vanc for
   Corynbacterium Bacteremia, and on Meropenem/ gentamicin for Pseudomonas
   VAP.  Also on Vanc PO and flagyl for empiric C.Diff.  New episode of
   hypotension [**11-21**] occurred after IR re-sited HD line.
    - C.Diff has been negative, discontinue oral vanc, flagyl.
    -Blood culture has been negative x48hrs, will discontinue vancomycin
   [**11-23**]
    - Cultures pending from a-line and Hd line
    - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]), Gent for 14 day
   planned course
   --change to tobra
    - weaning attempts of Levophed have been unsuccessful, and we have
   added vasopressin [**11-21**]  as levophed maxed. Also
       bolused 250cc x2 and given 2u pRBC [**11-21**].  Will attempt to wean
   levophed with Vasopressin on board.
    -check ecg for ischemia, low voltage.
   #Mesenteric Ischemia: Evidence with pneumotosis bowel on initial CT
   scan, none now. Surgery is following, and re-evaluating utility of
   surgery with the family daily. Per [**Doctor First Name **] and GI, risks of heparin for
   mesenteric ischemia outway benefits in her case. CT a/p with air fluid
   levels, no pneumotosis on repeat scan. Was making stool, but getting
   less and having a lot of output from Gtube without interval change on
   KUB from [**2188-11-19**].
   - continue recuscutation with volume/blood
   - Continue broad spectrum abx,  TPN, morphine for pain control
   #COPD/Respiratory:  has done well on PSV over the past couple days but
   was put back on CMV yesterday secondary to respiratory acidosis
   - Continue inhalers.
   - follow ABGs, may need vent adjustments
   #ESRD: CVVH catheter replaced [**11-10**], back on CVVH, but problem with line
   [**11-19**], IR replaced line [**11-21**].
   -  Getting CVVH this am.
   - Team continue to trouble shoot with the HD line as needed
   #PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming and worse with hypotension
   #Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Continue Digoxin dosing
   - check levels daily
   #Anemia: Hct baseline low 30s, transfused today.
   - will transfuse for precipitous drop or hct <21
   - will give blood if pressor req goes up.
   #Mental status: Per [**Hospital **] rehab notes, a&Ox1 baseline, but verbal per
   son. now responsive to noxious stimuli. Likely in setting of infection
   #Upper GI bleed: likely from mesenteric ischemia, IV PPI [**Hospital1 **]
   #Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   - repeat TST on [**11-17**] WNL
   #Access: Right femoral line [**11-20**], L tunneled HD line.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-11-23**] 06:21 PM 58.[**Telephone/Fax (5) 6062**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2188-11-25 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2188-11-24**] 11:22 AM
   from dialysis line
 BLOOD CULTURED - At [**2188-11-24**] 11:57 AM
   from l femoral tlcl
 SPUTUM CULTURE - At [**2188-11-24**] 12:22 PM
   -continued on CVVH
   - COntinued on IV vancomycin and topical mupirocin for superficial
   infection at line site
   -discontinued flagyl and PO vanc for empiric c.diff coverage
   - ID consult obtained; recommended torso scan for possible infectious
   source
   - Given mucomyst overnight in anticipation of CT scan
   - Gent peak/trough collected. Put back in for repeat tomorrow night as
   dose may have been given early
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-11-24**] 08:45 AM
   Gentamicin - [**2188-11-24**] 08:00 PM
   Metronidazole - [**2188-11-24**] 08:41 PM
   Meropenem - [**2188-11-25**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.23 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2188-11-25**] 12:00 AM
   Morphine Sulfate - [**2188-11-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-25**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 75 (67 - 97) bpm
   BP: 106/62(70) {75/13(39) - 134/65(89)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  6,803 mL
                                                                  2,764 mL
   PO:
             TF:
   IVF:
                                                                  5,312 mL
                                                                  2,302 mL
   Blood products:
   Total out:
                                                                  4,081 mL
                                                                  2,322 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,722 mL
                                                                    442 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 13 cmH2O
   Plateau: 14 cmH2O
   Compliance: 68.8 cmH2O/mL
   SpO2: 95%
   ABG: ///27/
   Ve: 13.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   8.4 g/dL
   111 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.8 mEq/L
   18 mg/dL
   106 mEq/L
   141 mEq/L
   24.9 %
   9.8 K/uL
        [image002.jpg]
                            [**2188-11-22**]  06:12 PM
                            [**2188-11-22**]  11:30 PM
                            [**2188-11-23**]  06:11 AM
                            [**2188-11-23**]  11:36 AM
                            [**2188-11-23**]  05:34 PM
                            [**2188-11-24**]  04:18 AM
                            [**2188-11-24**]  09:47 AM
                            [**2188-11-24**]  03:26 PM
                            [**2188-11-24**]  10:25 PM
                            [**2188-11-25**]  04:16 AM
   WBC
   9.8
   8.9
   9.8
   Hct
   27.6
   25.0
   24.9
   Plt
   118
   102
   93
   Cr
   1.1
   1.1
   0.9
   1.0
   1.1
   1.3
   1.1
   Glucose
   136
   275
   209
   98
   101
   133
   141
   155
   120
   111
   Other labs: PT / PTT / INR:13.8/58.9/1.2, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:36/31, Alk Phos / T Bili:128/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:79.8 %, Band:0.0 %,
   Lymph:9.8 %, Mono:10.0 %, Eos:0.3 %, D-dimer:3353 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL, LDH:205 IU/L, Ca++:9.1
   mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR:
   Microbiology: [**2188-11-24**]  SPUTUM  GS: GNR
   [**2188-11-24**]  BLOOD CULTURE  Pending
   [**2188-11-24**]  BLOOD CULTURE  Pending
   [**2188-11-23**]  SWAB  NGTD, 1+ PMN
   [**2188-11-23**]  SPUTUM  GNR/PA
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   # Possible Line Infection:
   - IV Vancomycin, f/u cultures, mupirocin on line changes
   - Resite line if possible but d/w IR with plan to try and treat through
   line for now as tunnel does not appear infected at this time.
    # Hypotension: appears to be septic shock from multiple infectious
   sources, including transient bacteremia from gut bacteria in setting of
   mesenteric ischemia, line infectuion, VAP.  She is s/p Vanc for
   Corynbacterium Bacteremia, and on Meropenem/ gentamicin for Pseudomonas
   VAP
   - C.Diff has been negative, discontinue oral vanc, flagyl.
    -Blood culture has been negative x48hrs, will discontinue vancomycin
   [**11-23**]
   - weaning attempts of Levophed have been unsuccessful, and we have
   added vasopressin [**11-21**] but unable to titrate off of levophed. Aim for
   MAPS >55-60
   # Resistant Pseudomonal VAP
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]), Gent for 14 day
   planned course
   - ID Consult placed for today to determine best approach for P.A. that
   is sensitive only to gent with MIC of 4.
   - Sensis pending for colistin, amikacin, polymicin
   #Mesenteric Ischemia: No chance in plan
   - continue Resuscitation with volume/blood
   - Continue broad spectrum abx,  TPN, morphine for pain control
   #COPD/Respiratory:  on AC given illness
   - Continue inhalers.
   - follow [**Last Name (LF) 6088**], [**First Name3 (LF) **] need vent adjustments
   #ESRD: CVVH catheter replaced [**11-10**], back on CVVH, but problem with line
   [**11-19**], IR replaced line [**11-21**].
   -  Continuing CVVH.
   - Team continue to trouble shoot with the HD line as needed
   #PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming and worse with hypotension
   #Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Continue Digoxin dosing, level wnl without signs of toxicity.
   #Anemia:
   - will transfuse for precipitous drop or hct <21 or if pressor req goes
   up.
   # Mental status: Per [**Hospital1 723**], a&Ox1 baseline, but verbal per son. now
   responsive to noxious stimuli. Likely in setting of infection
    #Bpper GI bleed: likely from mesenteric ischemia, IV PPI [**Hospital1 **]
   #Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   - repeat TST on [**11-17**] WNL
   #Access: Right femoral line [**11-20**], L tunneled HD line.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-11-24**] 06:47 PM 58.[**Telephone/Fax (5) 6062**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:
   DVT:  SC Heparin
   Stress ulcer:  PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2188-11-25 11:11:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2188-11-24**] 11:22 AM
   from dialysis line
 BLOOD CULTURED - At [**2188-11-24**] 11:57 AM
   from l femoral tlcl
 SPUTUM CULTURE - At [**2188-11-24**] 12:22 PM
   - ID consulted - Po vanc, flagyl d/c
   - Requiring more levophed this morning
   - Increased vent rate for for [**Month (only) 38**] pH, inc pCO2
   - Continues to have drainage at line site.  Access team, IR, ID
   evaluations regarding best option for vascular access going forward
   History obtained from Medical records
   Patient unable to provide history: Sedated, trached
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2188-11-24**] 08:00 PM
   Metronidazole - [**2188-11-24**] 08:41 PM
   Meropenem - [**2188-11-25**] 04:00 AM
   Vancomycin - [**2188-11-25**] 09:17 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.26 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-24**] 08:00 PM
   Morphine Sulfate - [**2188-11-25**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-25**] 09:18 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Edema, hypotension
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: [**2-6**] Minimal
   Pain location: abd
   Flowsheet Data as of  [**2188-11-25**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 70 (67 - 89) bpm
   BP: 44/31(33) {44/13(33) - 134/65(89)} mmHg
   RR: 25 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  6,803 mL
                                                                  3,974 mL
   PO:
             TF:
   IVF:
                                                                  5,312 mL
                                                                  3,352 mL
   Blood products:
   Total out:
                                                                  4,081 mL
                                                                  3,354 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,722 mL
                                                                    620 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 97%
   ABG: ///26/
   Ve: 12.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: tracheostomy
   Cardiovascular: distant heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Bowel sounds present, Tender: diffusely
   Extremities: Right: 2+, Left: 2+, Cyanosis, 3+ upper extremity edema
   Musculoskeletal: Unable to stand
   Skin:  Cool
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   93 K/uL
   107 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.8 mEq/L
   17 mg/dL
   106 mEq/L
   140 mEq/L
   24.9 %
   9.8 K/uL
        [image002.jpg]
                            [**2188-11-22**]  11:30 PM
                            [**2188-11-23**]  06:11 AM
                            [**2188-11-23**]  11:36 AM
                            [**2188-11-23**]  05:34 PM
                            [**2188-11-24**]  04:18 AM
                            [**2188-11-24**]  09:47 AM
                            [**2188-11-24**]  03:26 PM
                            [**2188-11-24**]  10:25 PM
                            [**2188-11-25**]  04:16 AM
                            [**2188-11-25**]  08:21 AM
   WBC
   9.8
   8.9
   9.8
   Hct
   27.6
   25.0
   24.9
   Plt
   118
   102
   93
   Cr
   1.1
   0.9
   1.0
   1.1
   1.3
   1.1
   1.0
   Glucose
   275
   209
   98
   101
   133
   141
   155
   120
   111
   107
   Other labs: PT / PTT / INR:13.8/58.9/1.2, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:36/31, Alk Phos / T Bili:128/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:79.8 %, Band:0.0 %,
   Lymph:9.8 %, Mono:10.0 %, Eos:0.3 %, D-dimer:3353 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL, LDH:205 IU/L, Ca++:9.0
   mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with their
   notes, including the assessment and plan. I would emphasize and add the
   following points:
   72F with septic shock and respiratory failure in the setting of a
   complicated PMHx.  CT strongly suggested mesenteric ischemia but she
   improved both clinically and radiographically.   Septic shock
   presumably due to ischemic bowel w/ bacterial translocation though
   pneumonia and cardiogenic shock could be contributory as well.
   Septic Shock:
   - Continues to require Levophed and vasopressin for bp support
   - Wean vasopressors as tolerated
 has essentially required both
   continuously since line last line replacement septic thromophlebitis
   with showering emboli on line removal is possibility.
   - New strain of PSA isolated in sputum
 resistant to panel except for
   aminogylcosides
   - Cont meropenem & gent.
   - await ID thoughts regarding potential second [**Doctor Last Name **] vs. PSA to prevent
   development of AG resistance
   - WBC trend is stable
   Mesenteric Ischemia:
   - Evidence with pneumotosis bowel on initial CT scan, subsequent show
   resolution.
   - Abd remains tender on exam
   - cont bowel rest
   ? Tunnel line infection
   - purulent material from line entry point
   - Standard of care dictates placement of another line at new site
   - pt has h/o significant vascular access issues and therefore limited
   access options
   - Given above, IR assessing feasibility of alternate sites
   - In meantime, topical treatment initiated. Though likelihood of
   clearing infection is not high, it is possible that trying to treat
   through it could become only option if IR unable to secure alternate
   access.  Currently BCx remain negative and evidence c/w tunnel
   infection and not IV line infection.  GS from site show polys but no
   organisms
   Resp failure:
   - COPD/Respiratory:  cont require significant mech vent support.
   - Cont to rest resp system while hemodyn unstable
   ESRD:
   - CVVH
   - Fluid removal as able
   PVD:
   - poorly perfused periphery
 sig worsening with systemic hypotension
   - alpha agents not optimal for periph perfusion but have been forced to
   use given persistent hypotension
   Atrial Fibrillation:
   - On dig
   Anemia:
   - Hct drifting downward
   - Loss presumed sec mesenteric ischemia
   Hypothyroidism:
   - on levothyoxine
   FEN:
   - TPN
   Social:
   - Son wishes to continue aggressive care and support.
    Patient is critically ill.
   Time spent on care: 55 min
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-11-24**] 06:47 PM 58.[**Telephone/Fax (5) 6062**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:

2188-11-26 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   1.       Decreased Vanc to 750 mg q24h
   2.       Continued / Restarted CVVH.
   3.       Treating through line
   4.       CT Torso: No SVC Syndrome, no abd abscess
   5.       Still on Levophed and Vasopressin
   No updates to ROS
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2188-11-24**] 08:41 PM
   Vancomycin - [**2188-11-25**] 09:17 AM
   Gentamicin - [**2188-11-25**] 09:00 PM
   Meropenem - [**2188-11-26**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.36 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-25**] 04:00 PM
   Pantoprazole (Protonix) - [**2188-11-25**] 08:00 PM
   Morphine Sulfate - [**2188-11-25**] 08:00 PM
   Other medications:
   Flowsheet Data as of  [**2188-11-26**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 88 (70 - 99) bpm
   BP: 96/53(63) {44/30(33) - 114/71(76)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  6,300 mL
                                                                  2,498 mL
   PO:
             TF:
   IVF:
                                                                  4,741 mL
                                                                  2,045 mL
   Blood products:
   Total out:
                                                                  4,070 mL
                                                                  1,682 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,230 mL
                                                                    816 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 275 (275 - 275) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 63
   PIP: 38 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 92%
   ABG: ///22/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : vented)
   Abdominal: Tender:
   Extremities: Right: moderate, Left: moderate
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   116 K/uL
   8.4 g/dL
   143 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.9 mEq/L
   21 mg/dL
   105 mEq/L
   137 mEq/L
   25.4 %
   9.6 K/uL
        [image002.jpg]
                            [**2188-11-23**]  05:34 PM
                            [**2188-11-24**]  04:18 AM
                            [**2188-11-24**]  09:47 AM
                            [**2188-11-24**]  03:26 PM
                            [**2188-11-24**]  10:25 PM
                            [**2188-11-25**]  04:16 AM
                            [**2188-11-25**]  08:21 AM
                            [**2188-11-25**]  04:22 PM
                            [**2188-11-25**]  09:13 PM
                            [**2188-11-26**]  05:47 AM
   WBC
   8.9
   9.8
   9.6
   Hct
   25.0
   24.9
   25.4
   Plt
   102
   93
   116
   Cr
   1.0
   1.1
   1.3
   1.1
   1.0
   1.1
   1.2
   1.2
   Glucose
   101
   133
   141
   155
   120
   111
   107
   94
   111
   143
   Other labs: PT / PTT / INR:13.3/53.2/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:36/31, Alk Phos / T Bili:128/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:79.8 %, Band:0.0 %,
   Lymph:9.8 %, Mono:10.0 %, Eos:0.3 %, D-dimer:3353 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:205 IU/L, Ca++:7.8
   mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs:
   Vanco: 33.7
   Dig: 1.4
   Alb: 2.3
   Peak: Genta: 2.9 Trough 2.8
   Imaging: CT Torso
   1. Posterior non- occlusive thrombus in right internal jugular, again
   seen but
   incompletely imaged. Distal right subclavian and brachiocephalic veins
   diminutive but patent. No evidence of SVC syndrome.
     2. No evidence of intra-abdominal abscess
     3. Slight interval decrease in ascites.
     4. Bilateral effusions and atelectasis are not significantly changed.
     5. Severe atherosclerotic disease as described above.
   Microbiology: [**2188-11-24**]  SPUTUM  GNR/[**MD Number(3) 6102**]
   [**2188-11-24**]  BLOOD CULTURE  Pending  ; [**2188-11-24**]  BLOOD CULTURE  Pending
   [**2188-11-23**]  SWAB  NGTD
   PA: Amikacin MIC 4
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   # Possible Line Infection:
   - IV Vancomycin, f/u cultures, mupirocin on line changes
   - Resite line if possible but d/w IR with plan to try and treat through
   line for now as tunnel does not appear infected at this time.
    # Hypotension: appears to be septic shock from multiple infectious
   sources, including transient bacteremia from gut bacteria in setting of
   mesenteric ischemia, line infectuion, VAP.  She is s/p Vanc for
   Corynbacterium Bacteremia, and on Meropenem/ gentamicin for Pseudomonas
   VAP
   - C.Diff has been negative, discontinue oral vanc, flagyl.
    -Blood culture has been negative x48hrs, will discontinue vancomycin
   [**11-23**]
   - weaning attempts of Levophed have been unsuccessful, and we have
   added vasopressin [**11-21**] but unable to titrate off of levophed. Aim for
   MAPS >55-60
    # Resistant Pseudomonal VAP
   - Pseudomonas VAP: Continue Meropenem (day1: [**11-14**]), Gent for 14 day
   planned course
   - ID Consult placed for today to determine best approach for P.A. that
   is sensitive only to gent with MIC of 4.
   - Sensis pending for colistin, amikacin, polymicin
   #Mesenteric Ischemia: No chance in plan
   - continue Resuscitation with volume/blood
   - Continue broad spectrum abx,  TPN, morphine for pain control
    #COPD/Respiratory:  on AC given illness
   - Continue inhalers.
   - follow [**Last Name (LF) 6088**], [**First Name3 (LF) **] need vent adjustments
    #ESRD: CVVH catheter replaced [**11-10**], back on CVVH, but problem with
   line [**11-19**], IR replaced line [**11-21**].
   -  Continuing CVVH.
   - Team continue to trouble shoot with the HD line as needed
    #PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming and worse with hypotension
   #Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial fibrillation
   in the past in the setting of infection and electrolyte abnormalities.
   - Continue Digoxin dosing, level wnl without signs of toxicity.
   #Anemia:
   - will transfuse for precipitous drop or hct <21 or if pressor req goes
   up.
    # Mental status: Per [**Hospital1 723**], a&Ox1 baseline, but verbal per son. now
   responsive to noxious stimuli. Likely in setting of infection
     #Bpper GI bleed: likely from mesenteric ischemia, IV PPI [**Hospital1 **]
    #Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   #Access: Right femoral line [**11-20**], L tunneled HD line.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-11-25**] 06:38 PM 58.[**Telephone/Fax (5) 6103**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:  PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2188-11-27 07:41:00 Physician Resident Progress Note
Chief Complaint: Shock
   24 Hour Events:
   1.sputum culture with pseudomonas, likely colonization
   2.VBG 7.19/69, respiratory acidosis, not far off baseline from past
   three days, increased respiratory rate.
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2188-11-24**] 08:41 PM
   Vancomycin - [**2188-11-25**] 09:17 AM
   Gentamicin - [**2188-11-25**] 09:00 PM
   Meropenem - [**2188-11-26**] 04:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.4 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-26**] 08:00 AM
   Morphine Sulfate - [**2188-11-26**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2188-11-27**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 74 (72 - 92) bpm
   BP: 94/42(55) {72/29(43) - 123/53(86)} mmHg
   RR: 12 (7 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
    CO/CI (Fick): (3.4 L/min) / (1.9 L/min/m2)
   Mixed Venous O2% Sat: 37 - 40
   Total In:
                                                                  7,949 mL
                                                                  2,517 mL
   PO:
   TF:
                                                                     70 mL
                                                                     74 mL
   IVF:
                                                                  6,472 mL
                                                                  2,007 mL
   Blood products:
   Total out:
                                                                  7,599 mL
                                                                  3,061 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    350 mL
                                                                   -544 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 97%
   ABG: ///28/
   Ve: 12.1 L/min
   Physical Examination
   General Appearance: Overweight / Obese, appears uncomfortable,
   squeezing eyes shut
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: coarse lung soounds bilateraly
   Abdominal: Soft, hypoactive but present bowel sounds
   Skin:  Not assessed, line site covered with mupirocin, red appearing
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, no clear purposeful
   movements
   Labs / Radiology
   147 K/uL
   8.4 g/dL
   147 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.1 mEq/L
   18 mg/dL
   105 mEq/L
   139 mEq/L
   25.7 %
   9.0 K/uL
        [image002.jpg]
                            [**2188-11-24**]  10:25 PM
                            [**2188-11-25**]  04:16 AM
                            [**2188-11-25**]  08:21 AM
                            [**2188-11-25**]  04:22 PM
                            [**2188-11-25**]  09:13 PM
                            [**2188-11-26**]  05:47 AM
                            [**2188-11-26**]  11:43 AM
                            [**2188-11-26**]  05:53 PM
                            [**2188-11-26**]  11:57 PM
                            [**2188-11-27**]  04:43 AM
   WBC
   9.8
   9.6
   9.0
   Hct
   24.9
   25.4
   25.7
   Plt
   93
   116
   147
   Cr
   1.1
   1.0
   1.1
   1.2
   1.2
   1.2
   1.0
   Glucose
   120
   111
   107
   94
   111
   143
   122
   135
   174
   147
   Other labs: PT / PTT / INR:13.2/94.6/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:36/31, Alk Phos / T Bili:128/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:79.8 %, Band:0.0 %,
   Lymph:9.8 %, Mono:10.0 %, Eos:0.3 %, D-dimer:3353 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.3 g/dL, LDH:205 IU/L, Ca++:9.4
   mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: Femoral Venous O2 sat 40%
   Vanco: 22.9
   Cortsol: Pnd
   Microbiology: Blood: NGTD
   Assessment and Plan
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   # Possible Line Infection:
   - IV Vancomycin, f/u cultures, mupirocin on line changes
   - The lumen of the line does not appear infected given negative blood
   cultures. The line site was swabbed and polys were seen by no organism
   was grown from the site.
   - Given the patient
s overall prognosis and the question of whether
   CVVH is indicated to continue, at this point after discussions with the
   family and consulting services including renal and IR, we will not
   attempt to resite the line. Resiting the line is a difficult decision
   as she has very poor alternate access locations given clots and prior
   vascular manipulations. At this point, we will continue with the line
   as is and continue to readdress daily.
   - Surveillance blood cultures, ngtd
     # Hypotension: appears to be septic shock from multiple infectious
   sources, including transient bacteremia from gut bacteria in setting of
   mesenteric ischemia, line infectuion, VAP.  She is s/p Vanc for
   Corynbacterium Bacteremia, and on Meropenem/ gentamicin for Pseudomonas
   VAP
   - Echo today to evaluate pump function
   - Keep on vancomycin empirically for now to cover entry site infection
   - may need to add neosynephrine
   - Will discuss with family overall prognosis given that previously the
   family had wished to not add a third pressor [**Last Name (un) 6120**].
    # Resistant Pseudomonal VAP
   -          No e/o infection on yesterday
s CT scan.
   -          Stop [**Last Name (un) 430**]/gent for now given no e/o ongoing pulm infection
   #Mesenteric Ischemia: No chance in plan
   - continue Resuscitation with volume/blood
   - Continue TPN, start tube feeds given no colonic inflammation on
   recent CT scan
     #COPD/Respiratory:  on AC given illness
   - Continue inhalers.
   - follow [**Last Name (LF) 6088**], [**First Name3 (LF) **] need vent adjustments
    #ESRD:
   -  Continuing CVVH through line
    #PVD: patient with dopplerable pulses on admission, mottled appearance
   is improving with warming and worse with hypotension
    #Atrial Fibrillation: since [**2188-11-7**] AM, she has had atrial
   fibrillation in the past in the setting of infection and electrolyte
   abnormalities.
   - Continue Digoxin dosing, level wnl without signs of toxicity.
   #Anemia:
   - will transfuse for precipitous drop or hct <21 or if pressor req goes
   up.
    # Mental status: Per [**Hospital1 723**], a&Ox1 baseline, but verbal per son. now
   responsive to noxious stimuli. Likely in setting of infection
    #Bpper GI bleed: likely from mesenteric ischemia, IV PPI [**Hospital1 **]
    #Hypothyroidism: on 200mcg levothyoxine at home, TSH normal
   - will give 100mcg IV for now
   #Access: Right femoral line [**11-20**], L tunneled HD line.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2188-11-26**] 05:00 PM 10 mL/hour
   TPN w/ Lipids - [**2188-11-26**] 06:24 PM 58.[**Telephone/Fax (5) 6114**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2188-11-28 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2188-11-27**] 01:27 PM
   ============
   After discussion with the family, the patient was made CMO
   Allergies:
   Proxy[**Name (NI) 3982**]
   Unknown;
   Caffeine
   Unknown;
   Butalbital
   Unknown;
   Barbiturates
   Unknown;
   Xanthines
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2188-11-25**] 09:17 AM
   Gentamicin - [**2188-11-25**] 09:00 PM
   Meropenem - [**2188-11-26**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Morphine Sulfate - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-28**] 12:00 AM
   Morphine Sulfate - [**2188-11-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-28**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 72 (72 - 90) bpm
   BP: 56/25(32) {56/24(32) - 137/90(118)} mmHg
   RR: 0 (0 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.4 kg (admission): 62.4 kg
   Height: 69 Inch
             Total In:
                                                                  8,325 mL
                                                                  1,547 mL
   PO:
             TF:
                                                                     90 mL
   IVF:
                                                                  6,826 mL
                                                                  1,117 mL
   Blood products:
   Total out:
                                                                  7,952 mL
                                                                  1,643 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    373 mL
                                                                    -94 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 32 cmH2O
   Plateau: 22 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.05/91.[**Numeric Identifier 96**]/31/26/-9
   Ve: 14.8 L/min
   PaO2 / FiO2: 62
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   8.4 g/dL
   179 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.3 mEq/L
   18 mg/dL
   103 mEq/L
   139 mEq/L
   25.7 %
   9.0 K/uL
        [image002.jpg]
                            [**2188-11-25**]  09:13 PM
                            [**2188-11-26**]  05:47 AM
                            [**2188-11-26**]  11:43 AM
                            [**2188-11-26**]  05:53 PM
                            [**2188-11-26**]  11:57 PM
                            [**2188-11-27**]  04:43 AM
                            [**2188-11-27**]  10:37 AM
                            [**2188-11-27**]  12:44 PM
                            [**2188-11-27**]  04:39 PM
                            [**2188-11-27**]  10:59 PM
   WBC
   9.6
   9.0
   Hct
   25.4
   25.7
   Plt
   116
   147
   Cr
   1.2
   1.2
   1.2
   1.0
   1.1
   1.0
   1.0
   TCO2
   27
   Glucose
   111
   143
   122
   135
   174
   147
   153
   137
   179
   Other labs: PT / PTT / INR:13.2/94.6/1.1, CK / CKMB /
   Troponin-T:81/9/0.46, ALT / AST:36/31, Alk Phos / T Bili:128/0.4,
   Amylase / Lipase:93/85, Differential-Neuts:79.8 %, Band:0.0 %,
   Lymph:9.8 %, Mono:10.0 %, Eos:0.3 %, D-dimer:3353 ng/mL, Fibrinogen:726
   mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.3 g/dL, LDH:205 IU/L, Ca++:9.6
   mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Pt is a 72 y/o F with a history of ESRD on HD, prolonged vent
   dependence ([**Date range (1) 5713**]), multiple GI bleeds, here with mesenteric
   ischemia and septic shock
   Patient now CMO and is being cared for accordingly.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2188-11-27**] 06:10 PM 59.[**Telephone/Fax (3) 1664**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2188-11-20**] 04:49 PM
   Dialysis Catheter - [**2188-11-21**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition: